2130-11-11 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2130-11-11**] 12:00 AM
 MULTI LUMEN - START [**2130-11-11**] 12:30 AM
 INDWELLING PORT (PORTACATH) - START [**2130-11-11**] 12:30 AM
   Pt had this recently placed. Accessed @ [**Hospital1 5**] in ED
 BLOOD CULTURED - At [**2130-11-11**] 03:00 AM
 URINE CULTURE - At [**2130-11-11**] 03:00 AM
 SPUTUM CULTURE - At [**2130-11-11**] 04:10 AM
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-11-11**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-11**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 124 (112 - 124) bpm
   BP: 108/55(68) {91/41(54) - 122/55(68)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  8,492 mL
   PO:
   TF:
   IVF:
                                                                  3,002 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,960 mL
   Urine:
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 27
   PIP: 12 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: ///15/
   Ve: 15.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   108 K/uL
   10.1 g/dL
   83 mg/dL
   1.3 mg/dL
   15 mEq/L
   3.4 mEq/L
   62 mg/dL
   128 mEq/L
   148 mEq/L
   30.2 %
   11.2 K/uL
        [image002.jpg]
                            [**2130-11-11**]  02:36 AM
   WBC
   11.2
   Hct
   30.2
   Plt
   108
   Cr
   1.3
   Glucose
   83
   Other labs: PT / PTT / INR:23.8/39.3/2.3, ALT / AST:31/98, Alk Phos / T
   Bili:96/1.7, Differential-Neuts:84.2 %, Lymph:10.4 %, Mono:4.6 %,
   Eos:0.7 %, LDH:193 IU/L, Ca++:6.3 mg/dL, Mg++:1.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 .H/O CIRRHOSIS OF LIVER, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-11-11**] 12:30 AM
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-11-11 08:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-11-11**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-11**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 124 (112 - 124) bpm
   BP: 108/55(68) {91/41(54) - 122/55(68)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  8,594 mL
   PO:
   TF:
   IVF:
                                                                  3,104 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,040 mL
   Urine:
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,554 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 27
   PIP: 12 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: ///15/
   Ve: 15.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.1 g/dL
   108 K/uL
   83 mg/dL
   1.3 mg/dL
   15 mEq/L
   3.4 mEq/L
   62 mg/dL
   128 mEq/L
   148 mEq/L
   30.2 %
   11.2 K/uL
         [image002.jpg]
                            [**2130-11-11**]  02:36 AM
   WBC
   11.2
   Hct
   30.2
   Plt
   108
   Cr
   1.3
   Glucose
   83
   Other labs: PT / PTT / INR:23.8/39.3/2.3, ALT / AST:31/98, Alk Phos / T
   Bili:96/1.7, Differential-Neuts:84.2 %, Lymph:10.4 %, Mono:4.6 %,
   Eos:0.7 %, LDH:193 IU/L, Ca++:6.3 mg/dL, Mg++:1.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis, on transplant list, was transferred
   to [**Hospital1 5**] with obtundation/hepatic encelopathy, leukocytosis with 21%
   bandemia.  Found to have multifocal pneumonia on chest CT - tx with
   moxifloxacin at OSH.  Briefly hypotensive
responsive to fluids.
   > Pneumonia: with hypotension requiring aggressive IVF resuscitation.
   Respiratory failure leading to intubation. Legionella neg. Leukocytosis
   improving (bandemia resolved) with abx.
   - vancomycin, aztreonam, levoflox
   - sputum cx, blood cx, urine cx,
   - IVF prn
   - pressor if needed to maintain MAP > 60
   - continue mechanical ventilation; wean O2 as tolerated
   -  f/u cultures from OS
   -  repeat ABG
   -  increase peep to 8 and decrease FiO2 as tolerated (plateau pressure
   11)
   > Hepatic encephalopathy: worsened by ongoing infection.
   - continue lactulose, titrate to [**2-14**] bowel movements
   - continue rifaximin
   >ARF: Likely prerenal
 now rapidly improving.
   - Continue to follow with hydration
   > Cirrhosis: with esophageal varices. Currently no clear evidence for
   SBP.
   - hold propanalol given hypotension
   - f/u liver recs
   - continue PPI
   > GI/FEN:
   - continue PPI for GERD
   - start TF per nutrition
   > Hypernatremia: Possibly iatrogenic from aggressive NS resuscitation
   - Free water flushes
   > Depression with psychotic features/PTSD
   - continue quetiapine
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-11-11**] 12:30 AM
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   ICU Attending
   Patient
s records reviewed and patient examined with ICU fellow, Dr
   [**Last Name (STitle) 2956**].
   Patient
s blood pressure has responded to fluids, but he continues to
   be tachycardic and drops his pressure with sedation.  Still has
   moderate oxygen requirement.; PEEP increased to 8.  Creatinine
   improving.
   On exam, patient intubated and sedated. PEERR. No scleral icterus.
   Chest clear with good air movement over the anterior and lateral
   fields. Heart sounds distant. I-II/VI systolic murmur throughout the
   precordium. Abdomen with active bowel sounds. Soft, no guarding. Non
   tender. Extremities warm and well perfused.
   Chest CT reviewed: RLL and LLL infiltrates with air bronchograms. Small
   bilateral pleural effusions.
   Labs notable for hct=30, hypernatremia, and hyperchloremic metablic
   acidosis with bicarb 15.
   IMPRESSION:
   Acute respiratory failure
   Pneumonia
   Cirrhosis
   Hypernatremia
   Metabolic Acidosis
   Acute Renal Failure
   Patient appears to be volume depleted clinically. Will give additional
   fluids. With hyperchloremic metabolic acidosis (likely in part due to
   NS fluid resuscitation), would give next liter as D5W with 2 amps of
   bicarbonate. Patient cannot get lactated Ringers because of cirrhosis.
   [**Month (only) 8**] need to periodically use D5 with bicarb in addition to NS for
   future fluid needs.
   Oxygenation a bit better. Patient continues on antibiotics for possible
   aspiration pneumonia.
   Renal function improving with fluid resuscitation. Continue as above.
   Hct at 30. No evidence of bleeding. Not at transfusion threshold. INR
   at 2.3 . If we continue to have problems with volume resuscitation,
   consider transfusion with FFP.
   Free water repletion ongoing.
   Critical care: 35 mins.
   [**First Name4 (NamePattern1) 214**] [**Last Name (NamePattern1) **], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 214**] [**Last Name (NamePattern1) **], MD
   on:[**2130-11-11**] 15:15 ------

2130-11-12 08:36:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 MULTI LUMEN - START [**2130-11-11**] 04:32 PM
 L IJ
 MULTI LUMEN - STOP [**2130-11-11**] 10:00 PM
 Right Femoral
 FEVER - 101.5
F - [**2130-11-12**] 04:00 AM
   2 units FFP for coagulopathy
   Conjunctivitis - written for erythromycin eye ointment (per wife was
   using gel at home to help treat)
   Held tube feeds because free water residuals > 200 ml
   Increased lactulose to help stimulate bowel movement
   Wildly variable HCT, Hgb on CBC
   Copious secretions
   Patient discovered to be impacted
 tar hard stones that are guaiac
   negative.
   Allergies:
   Nafcillin Renal Toxicity;
   Last dose of Antibiotics:
   Aztreonam - [**2130-11-12**] 05:00 AM
   Vancomycin - [**2130-11-12**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-11-12**] 03:05 AM
   Fentanyl - [**2130-11-12**] 03:05 AM
   Pantoprazole (Protonix) - [**2130-11-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-12**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.9
   HR: 119 (118 - 132) bpm
   BP: 99/49(61) {84/45(54) - 114/60(69)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 7 (2 - 10)mmHg
   Total In:
                                                                 13,490 mL
                                                                  3,569 mL
   PO:
   TF:
   IVF:
                                                                  6,596 mL
                                                                  2,699 mL
   Blood products:
                                                                    594 mL
   Total out:
                                                                  3,900 mL
                                                                    875 mL
   Urine:
                                                                  2,800 mL
                                                                    775 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  9,590 mL
                                                                  2,694 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 552 (552 - 552) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 16.3 L/min
   Physical Examination
   Gen: middle-aged man intubated, opens eyes to verbal stimuli esp if it
   regards his family
   HEENT: pupils miminally reactive bilaterally
   Lungs: rhonchi bilaterally
   Heart: normal rate, reg rhythm, nl S1/S2, no murmur
   Abd: soft, distended, no fluid wave, rare bowel sounds
   Ext: 1+ edema
   Labs / Radiology
   134 K/uL
   10.4 g/dL
   102 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.5 mEq/L
   37 mg/dL
   121 mEq/L
   149 mEq/L
   29.7 %
   15.3 K/uL
        [image002.jpg]
                            [**2130-11-11**]  02:36 AM
                            [**2130-11-11**]  01:04 PM
                            [**2130-11-11**]  09:58 PM
                            [**2130-11-12**]  02:57 AM
   WBC
   11.2
   17.6
   10.7
   15.3
   Hct
   30.2
   33.2
   26.7
   29.7
   Plt
   108
   135
   102
   134
   Cr
   1.3
   1.0
   0.9
   0.8
   Glucose
   83
   90
   102
   Other labs: PT / PTT / INR:22.2/51.5/2.1, ALT / AST:43/114, Alk Phos /
   T Bili:159/2.4, Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %,
   Eos:0.8 %, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.0 mg/dL, Mg++:2.1
   mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis, on transplant list, was transferred
   to [**Hospital1 5**] with obtundation, found to have multifocal pneumonia.
   # Pneumonia: with hypotension requiring aggressive IVF resuscitation.
   Respiratory failure leading to intubation. Location and recent
   encephalopathy suggestive for aspiration pneumonia
   - vancomycin, aztreonam, levoflox
   - sputum cx, blood cx, urine cx, urine Legionella Ag
   - IVF prn
   - pressor if needed to maintain MAP > 60
   - repeat CXR tomorrow
   - continue mechanical ventilation, repeat VBG
   - plan for speech/swallow s/p extubation
   # Hepatic encephalopathy: worsened by ongoing infection and severe
   constipation
   - continue lactulose, titrate to [**2-14**] bowel movements
   - continue rifaximin
   - treat CONSTIPATION with disimpaction, Lactulose, and warm water
   enemas
   # Cirrhosis: with esophageal varices. Currently no clear evidence for
   SBP. MELD score....
   - hold propanalol given hypotension
   - f/u liver recs
   - continue PPI
   # Hypernatremia: patient was having high residuals likely leading to
   poor absorption of his free water boluses.  Patient was given 2L D5W w/
   2 amps bicarb O/N
   - continue free water boluses
   # Fever: max 101.5, cultured, with rapid improvement in renal function
   needs antibiotic adjustment
   - renally dose antibiotics
   - trend fever curve
   - cooling blanket
   - hold on using Tylenol
   # Renal Failure: appears to have been all prerenal, resolved with
   hydration
   - Trend Cr
   # Depression with psychotic features/PTSD
   - continue quetiapine
   # GERD:
   - continue PPI
   ICU Care
   Nutrition: Tube feeds to begin pending patient improvement in residuals
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 02:54 PM
   Multi Lumen - [**2130-11-11**] 04:32 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer:  on PPI
   VAP:  precautions
   Comments:
   Communication: wife  Comments:
   [**Name2 (NI) 156**] status: Full code
   Disposition: ICU

2130-11-12 10:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - TLC placed in LIJ yesterday
   - Disimpacted, now with diarrhea
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Aztreonam - [**2130-11-12**] 05:00 AM
   Vancomycin - [**2130-11-12**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-11-12**] 03:05 AM
   Fentanyl - [**2130-11-12**] 03:05 AM
   Pantoprazole (Protonix) - [**2130-11-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-12**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.8
C (100
   HR: 120 (115 - 132) bpm
   BP: 107/54(65) {84/45(54) - 114/60(69)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 7 (2 - 10)mmHg
   Total In:
                                                                 13,490 mL
                                                                  3,724 mL
   PO:
   TF:
   IVF:
                                                                  6,596 mL
                                                                  2,854 mL
   Blood products:
                                                                    594 mL
   Total out:
                                                                  3,900 mL
                                                                    955 mL
   Urine:
                                                                  2,800 mL
                                                                    855 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  9,590 mL
                                                                  2,769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 552 (552 - 552) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: ///19/
   Ve: 16.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.4 g/dL
   134 K/uL
   102 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.5 mEq/L
   37 mg/dL
   121 mEq/L
   149 mEq/L
   29.7 %
   15.3 K/uL
        [image002.jpg]
                            [**2130-11-11**]  02:36 AM
                            [**2130-11-11**]  01:04 PM
                            [**2130-11-11**]  09:58 PM
                            [**2130-11-12**]  02:57 AM
   WBC
   11.2
   17.6
   10.7
   15.3
   Hct
   30.2
   33.2
   26.7
   29.7
   Plt
   108
   135
   102
   134
   Cr
   1.3
   1.0
   0.9
   0.8
   Glucose
   83
   90
   102
   Other labs: PT / PTT / INR:22.2/51.5/2.1, ALT / AST:43/114, Alk Phos /
   T Bili:159/2.4, Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %,
   Eos:0.8 %, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.0 mg/dL, Mg++:2.1
   mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 .H/O CIRRHOSIS OF LIVER, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 02:54 PM
   Multi Lumen - [**2130-11-11**] 04:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2130-11-12 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - LIJ TLC placed
   - Improving mental status after disimpaction
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Aztreonam - [**2130-11-12**] 05:00 AM
   Vancomycin - [**2130-11-12**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-11-12**] 03:05 AM
   Fentanyl - [**2130-11-12**] 03:05 AM
   Pantoprazole (Protonix) - [**2130-11-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-12**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 120 (115 - 132) bpm
   BP: 107/54(65) {84/45(54) - 109/60(69)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 7 (2 - 10)mmHg
   Total In:
                                                                 13,490 mL
                                                                  3,796 mL
   PO:
   TF:
   IVF:
                                                                  6,596 mL
                                                                  2,926 mL
   Blood products:
                                                                    594 mL
   Total out:
                                                                  3,900 mL
                                                                  1,015 mL
   Urine:
                                                                  2,800 mL
                                                                    915 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  9,590 mL
                                                                  2,781 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 552 (552 - 552) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: ///19/
   Ve: 16.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.4 g/dL
   134 K/uL
   102 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.5 mEq/L
   37 mg/dL
   121 mEq/L
   149 mEq/L
   29.7 %
   15.3 K/uL
                            [**2130-11-11**]  02:36 AM
                            [**2130-11-11**]  01:04 PM
                            [**2130-11-11**]  09:58 PM
                            [**2130-11-12**]  02:57 AM
   WBC
   11.2
   17.6
   10.7
   15.3
   Hct
   30.2
   33.2
   26.7
   29.7
   Plt
   108
   135
   102
   134
   Cr
   1.3
   1.0
   0.9
   0.8
   Glucose
   83
   90
   102
   Other labs: PT / PTT / INR:22.2/51.5/2.1, ALT / AST:43/114, Alk Phos /
   T Bili:159/2.4, Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %,
   Eos:0.8 %, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.0 mg/dL, Mg++:2.1
   mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis, on transplant list, was transferred
   to [**Hospital1 5**] with obtundation/hepatic encelopathy, leukocytosis with 21%
   bandemia.  Found to have multifocal pneumonia on chest CT
 likely
   aspiration.  Briefly hypotensive
responsive to fluids.
   > Pneumonia: with hypotension requiring aggressive IVF resuscitation.
   Respiratory failure leading to intubation. Legionella neg. Leukocytosis
   improving (bandemia resolved) with abx.. Persistently febrile
   - vancomycin, aztreonam, levoflox
 consider gent if worsens
   - F/U sputum cx, blood cx, urine cx,
   - continue mechanical ventilation; wean O2 as tolerated
   -  f/u cultures from OS
   - repeat VBG
   > Hepatic encephalopathy: worsened by ongoing infection and
   constipation.
   - continue lactulose, titrate to [**2-14**] bowel movements
   - continue rifaximin
   - disimpact prn
   >ARF: Likely prerenal
 now rapidly improving.
   - Continue to follow with hydration
   - Adjust medication dosing for creatinine clearance
   > Cirrhosis: with esophageal varices. Currently no clear evidence for
   SBP.
   - hold propanalol given hypotension
   - f/u liver recs
   - continue PPI
   > GI/FEN:
   - continue PPI for GERD
   - start TF per nutrition
   > Hypernatremia: Possibly iatrogenic from aggressive NS resuscitation.
   Persistently high, possible due to high residuals and FWF not being
   absorbed
   - Continue free water flushes
   - Recheck Na at 3pm
   > Depression with psychotic features/PTSD
   - continue quetiapine
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 02:54 PM
   Multi Lumen - [**2130-11-11**] 04:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present for the key portions of the service provided.
   I would agree with the findings as described above and would add the
   following
   -Patient with improved blood pressure in the absence of pressors and
   with IVF given
   -Patient with impaction and improved stool flow with disempaction today
   -Free water provided for hypernatremia
   -Patient remains intubated with improving pulmonary mechanics with
   mental status remaining at issue
   -Paitent has had some improvement in creatinine with volume replacement
   as described above.
   EXAM-
   Patient tachypneic/tachycardic following turning and cleaning for BM
   Lungs
Distant breath sounds but clear
   Abd
Distended but soft
   A/P
   Hypotension
continue with broad spectrum antibiotics for primary
   coverage of GNR
s in sputum with Vanco/Levo/Aztreonam.  Will continue
   with Ventilatory support for multi-focal pneumonia which is likely
   primary source for insult
   Respiratory Failure
Continue with A/C support and will need so see
   substantial improvement in mental status and pulmonary secretion volume
   before move to extubation
   Altered Mental Status-
   -Continue lactulose
   Additional issues to be treated as defined in the note above
   Critical Care Time-45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2130-11-12**] 14:14 ------

2130-11-13 09:13:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2130-11-12**] 10:00 PM
 FEVER - 101.8
F - [**2130-11-12**] 04:00 PM
   tachycardia, hypoxemia increased fi02
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-12**] 06:00 PM
   Vancomycin - [**2130-11-12**] 08:00 PM
   Aztreonam - [**2130-11-13**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-11-13**] 12:00 AM
   Midazolam (Versed) - [**2130-11-13**] 06:00 AM
   Fentanyl - [**2130-11-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2130-11-13**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.7
C (98
   HR: 119 (105 - 134) bpm
   BP: 105/60(70) {73/35(44) - 137/77(89)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 9 (-1 - 12)mmHg
   Total In:
                                                                  9,632 mL
                                                                  3,478 mL
   PO:
   TF:
                                                                    160 mL
                                                                    220 mL
   IVF:
                                                                  7,552 mL
                                                                  2,639 mL
   Blood products:
   Total out:
                                                                  2,648 mL
                                                                    405 mL
   Urine:
                                                                  1,748 mL
                                                                    405 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  6,984 mL
                                                                  3,073 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Hemodynamic Instability
   PIP: 13 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   87 K/uL
   93 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   22 mg/dL
   115 mEq/L
   142 mEq/L
   24.7 %
   8.1 K/uL
        [image002.jpg]
                            [**2130-11-11**]  02:36 AM
                            [**2130-11-11**]  01:04 PM
                            [**2130-11-11**]  09:58 PM
                            [**2130-11-12**]  02:57 AM
                            [**2130-11-12**]  02:58 PM
                            [**2130-11-12**]  09:50 PM
                             [**2130-11-13**]  04:06 AM
   WBC
   11.2
   17.6
   10.7
   15.3
   12.6
   8.1
   Hct
   30.2
   33.2
   26.7
   29.7
   29.5
   24.7
   Plt
   108
   135
   102
   134
   116
   87
   Cr
   1.3
   1.0
   0.9
   0.8
   0.8
   0.5
   0.5
   Glucose
   83
   90
   102
   132
   157
   93
   Other labs: PT / PTT / INR:21.5/47.2/2.0, ALT / AST:43/114, Alk Phos /
   T Bili:159/2.2, Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %,
   Eos:0.8 %, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:6.8 mg/dL, Mg++:1.7
   mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failulre from multifocal pneumonia, now with persistent fevers.
   ## Hypoxemic respiratory failure
   Peristent infiltrate on CXR, increased secretions, likely PNA. Plan abx
   as below. Would wean Fi02 and increase PEEP if needed. Unlikely to
   extubate in next 24hrs, so would favor low tidal volume strategy. If
   needed can add propofol for sedation.
   ## Fevers: likely due to pneumonia, though persistence of fevers raises
   suspicion for additional source
   - f/u cultures; culture Port
   - abdominal ultrasound to evaluate for ascites; consider diagnostic
   para to r/o SBP if remains febrile
   ## Cirrhosis:
   - cont rifaximin and lactulose for encephalopathy
   - liver input appreciated
   -currently delisted from transplant due to acute infection
   - cont to trend platelets
   ## Acute renal failure; resolved; likely prerenal due to
   hypovolmic/septic shock
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-11-13**] 02:38 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 02:54 PM
   Multi Lumen - [**2130-11-11**] 04:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 minutes, patient is critically ill

2130-11-13 11:46:00 Physician Resident Progress Note
Chief Complaint: hypoxemic respiratory failure, fevers
   24 Hour Events:
   - adjusted antibiotic dosing due to improved GFR
   - required cooling blanket and prn acetaminophen to defervesce; HR
   improved with defervescence
   - successfully [**Name6 (MD) 2975**] by RN with copious Guaiac negative liquid
   stool output following disimpaction; OGT residuals much improved
   following disimpaction
   - serum Na improved with D5W and free water boluses
   - in afternoon, SBP in 90s with CVP 2-3; 3 liter LR boluses given with
   good effect on SBP and CVP
   - 3AM, became acutely tachypneic, tachycardic, agitated, and hypoxic in
   setting of fever spike; increased sedation and FiO2 with good effect;
   additional LR boluses given; FiO2 decreased this morning with good
   effect
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-12**] 06:00 PM
   Aztreonam - [**2130-11-13**] 05:00 AM
   Vancomycin - [**2130-11-13**] 08:03 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-11-13**] 06:00 AM
   Fentanyl - [**2130-11-13**] 06:00 AM
   Pantoprazole (Protonix) - [**2130-11-13**] 09:04 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-13**] 09:05 AM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2130-11-13**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.9
C (98.4
   HR: 110 (105 - 134) bpm
   BP: 90/52(62) {73/35(44) - 137/77(89)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 6 (-1 - 12)mmHg
   Total In:
                                                                  9,632 mL
                                                                  5,222 mL
   PO:
   TF:
                                                                    160 mL
                                                                    305 mL
   IVF:
                                                                  7,552 mL
                                                                  4,047 mL
   Blood products:
   Total out:
                                                                  2,648 mL
                                                                    625 mL
   Urine:
                                                                  1,748 mL
                                                                    625 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  6,984 mL
                                                                  4,599 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 13 cmH2O
   Plateau: 11 cmH2O
   SpO2: 96%
   ABG: ///23/
   Ve: 12.1 L/min
   Physical Examination
   General: sedated, intubated, not opening eyes to voice
   HEENT: pupils 3mm reactive, equal
   Chest: diffuse expiratory ronchi
   CV: regular tachycardic, II/VI systolic murmur
   Extr: diffusely anasarcic
   Neuro: sedated
   Labs / Radiology
   84 K/uL
   9.4 g/dL
   93 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   22 mg/dL
   115 mEq/L
   142 mEq/L
   26.0 %
   7.1 K/uL
        [image002.jpg]
                            [**2130-11-11**]  02:36 AM
                            [**2130-11-11**]  01:04 PM
                            [**2130-11-11**]  09:58 PM
                            [**2130-11-12**]  02:57 AM
                            [**2130-11-12**]  02:58 PM
                            [**2130-11-12**]  09:50 PM
                             [**2130-11-13**]  04:06 AM
                             [**2130-11-13**]  09:37 AM
   WBC
   11.2
   17.6
   10.7
   15.3
   12.6
   8.1
   7.1
   Hct
   30.2
   33.2
   26.7
   29.7
   29.5
   24.7
   26.0
   Plt
   108
   135
   102
   134
   116
   87
   84
   Cr
   1.3
   1.0
   0.9
   0.8
   0.8
   0.5
   0.5
   Glucose
   83
   90
   102
   132
   157
   93
   Other labs: PT / PTT / INR:21.5/47.2/2.0, ALT / AST:43/114, Alk Phos /
   T Bili:159/2.2, Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %,
   Eos:0.8 %, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:6.8 mg/dL, Mg++:1.7
   mg/dL, PO4:1.4 mg/dL
   CXR: increasing effusions; ? new right upper lobe infiltrate
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failulre from multifocal pneumonia, now with persistent fevers.
   ## Hypoxemic respiratory failure; seems to be due to pneumonia, though
   pleural effusions may also be contributing
   - f/u sputum culture which is growing rare GNRs
   - cont empiric vancomycin, aztreonam, levofloxacin; check vanco trough
   - wean FiO2 and increase PEEP
   ## Hypotension: likely multifactorial from hypovolemia from stool
   losses as well as insensible losses from fevers as well as possible
   sepsis
   - LR boluses to increase CVP; low threshhold to switch to albumin if
   crystalloid is ineffective
   - consider vasopressor support if above is inadequate
   ## Fevers: likely due to pneumonia, though persistence of fevers raises
   suspicion for additional source
   - f/u cultures; culture Port
   - abdominal ultrasound to evaluate for ascites; consider diagnostic
   para to r/o SBP if remains febrile
   ## Cirrhosis:
   - cont rifaximin and lactulose for encephalopathy
   - liver input appreciated
   -currently delisted from transplant due to acute infection
   - cont to trend platelets
   ## Acute renal failure; resolved; likely prerenal due to
   hypovolmic/septic shock
   ## Anemia; source unclear; cont to trend
   ICU Care
   Nutrition: tube feeds with free H2O boluses
   Fibersource HN (Full) - [**2130-11-13**] 02:38 AM 30 mL/hour
   Glycemic Control:  not needed
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 02:54 PM
   Multi Lumen - [**2130-11-11**] 04:32 PM
   Prophylaxis:
   DVT: heparin SC tid
   Stress ulcer: home ppi
   VAP:  VAP bundle, chlorhexidine
   Communication:  with wife
   [**Name (NI) 156**] status: Full code
   Disposition:  ICU

2130-11-14 07:46:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-13**] 09:08 AM
 ULTRASOUND - At [**2130-11-13**] 10:03 AM
 ARTERIAL LINE - START [**2130-11-13**] 05:26 PM
 FEVER - 101.1
F - [**2130-11-14**] 04:00 AM
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-13**] 06:09 PM
   Vancomycin - [**2130-11-13**] 09:08 PM
   Aztreonam - [**2130-11-13**] 10:00 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-13**] 09:04 AM
   Midazolam (Versed) - [**2130-11-13**] 05:00 PM
   Fentanyl - [**2130-11-13**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-11-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-14**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (99
   HR: 110 (86 - 134) bpm
   BP: 114/54(73) {78/48(59) - 129/67(85)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 9 (5 - 257)mmHg
   Total In:
                                                                  9,655 mL
                                                                    780 mL
   PO:
   TF:
                                                                    383 mL
   IVF:
                                                                  7,432 mL
                                                                    440 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,890 mL
                                                                    343 mL
   Urine:
                                                                  1,490 mL
                                                                    343 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,765 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 630 (550 - 630) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 157.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.28/50/77.[**Numeric Identifier 253**]/23/-3
   Ve: 10 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Cardiovascular: (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   111 K/uL
   100 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   18 mg/dL
   111 mEq/L
   139 mEq/L
   28.7 %
   10.9 K/uL
        [image002.jpg]
                            [**2130-11-12**]  02:57 AM
                            [**2130-11-12**]  02:58 PM
                            [**2130-11-12**]  09:50 PM
                             [**2130-11-13**]  04:06 AM
                             [**2130-11-13**]  09:37 AM
                             [**2130-11-13**]  05:11 PM
                             [**2130-11-13**]  09:58 PM
                             [**2130-11-14**]  02:33 AM
                             [**2130-11-14**]  03:30 AM
                             [**2130-11-14**]  05:59 AM
   WBC
   15.3
   12.6
   8.1
   7.1
   10.9
   Hct
   29.7
   29.5
   24.7
   26.0
   28.7
   Plt
   134
   116
   87
   84
   111
   Cr
   0.8
   0.8
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   23
   25
   23
   24
   Glucose
   102
   132
   157
   93
   100
   Other labs: PT / PTT / INR:21.2/39.2/2.0, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:33/65, Alk Phos / T Bili:188/2.4,
   Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %, Eos:0.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failulre from multifocal pneumonia, now with persistent fevers.
   ## Hypoxemic respiratory failure; seems to be due to pneumonia, though
   pleural effusions may also be contributing
   - f/u sputum culture which is growing rare GNRs
   - cont empiric vancomycin, aztreonam, levofloxacin; check vanco trough
   - wean FiO2 and increase PEEP
   ## Hypotension: likely multifactorial from hypovolemia from stool
   losses as well as insensible losses from fevers as well as possible
   sepsis
   - LR boluses to increase CVP; low threshhold to switch to albumin if
   crystalloid is ineffective
   - consider vasopressor support if above is inadequate
   ## Fevers: likely due to pneumonia, though persistence of fevers raises
   suspicion for additional source
   - f/u cultures; culture Port
   - abdominal ultrasound to evaluate for ascites; consider diagnostic
   para to r/o SBP if remains febrile
   ## Cirrhosis:
   - cont rifaximin and lactulose for encephalopathy
   - liver input appreciated
   -currently delisted from transplant due to acute infection
   - cont to trend platelets
   ## Acute renal failure; resolved; likely prerenal due to
   hypovolmic/septic shock
   ## Anemia; source unclear; cont to trend
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 02:54 PM
   Multi Lumen - [**2130-11-11**] 04:32 PM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-11-14 08:02:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-13**] 09:08 AM
 ULTRASOUND - At [**2130-11-13**] 10:03 AM
 ARTERIAL LINE - START [**2130-11-13**] 05:26 PM
 FEVER - 101.1
F - [**2130-11-14**] 04:00 AM
   Continued to stool
   Placed a-line, Tachy, ongoing but basically stable levophed requirement
   Backed off NG tube again as residuals increased; trial of increasing
   again overnight
   Changed sedation from versed to propofol
   Repeated ABGs overnight showed evolving acidosis; worsening CXR appears
   to show diffuse PNA vs additional fluid overload
   Gave 25 gm of albumin yesterday with minimal improvement in
   hemodynamics
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nafcillin Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-13**] 06:09 PM
   Vancomycin - [**2130-11-13**] 09:08 PM
   Aztreonam - [**2130-11-13**] 10:00 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-13**] 09:04 AM
   Midazolam (Versed) - [**2130-11-13**] 05:00 PM
   Fentanyl - [**2130-11-13**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-11-14**] 12:00 AM
   Other medications:
   Rifaxamin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-14**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (99
   HR: 110 (86 - 134) bpm
   BP: 114/54(73) {78/48(59) - 129/67(85)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 9 (5 - 257)mmHg
   Total In:
                                                                  9,655 mL
                                                                    791 mL
   PO:
   TF:
                                                                    383 mL
   IVF:
                                                                  7,432 mL
                                                                    451 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,890 mL
                                                                    343 mL
   Urine:
                                                                  1,490 mL
                                                                    343 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,765 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 630 (550 - 630) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 157.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.28/50/77.[**Numeric Identifier 253**]/23/-3
   Ve: 10 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: pupils pinpoint
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Diminished: bases)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   111 K/uL
   9.9 g/dL
   100 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   18 mg/dL
   111 mEq/L
   139 mEq/L
   28.7 %
   10.9 K/uL
        [image002.jpg]
                                     pH
                                    7.28
                                    pCO2
                                     49
                                     pO2
                                     123
                            [**2130-11-12**]  02:57 AM
                            [**2130-11-12**]  02:58 PM
                            [**2130-11-12**]  09:50 PM
                             [**2130-11-13**]  04:06 AM
                             [**2130-11-13**]  09:37 AM
                             [**2130-11-13**]  05:11 PM
                             [**2130-11-13**]  09:58 PM
                             [**2130-11-14**]  02:33 AM
                             [**2130-11-14**]  03:30 AM
                             [**2130-11-14**]  05:59 AM
   WBC
   15.3
   12.6
   8.1
   7.1
   10.9
   Hct
   29.7
   29.5
   24.7
   26.0
   28.7
   Plt
   134
   116
   87
   84
   111
   Cr
   0.8
   0.8
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   23
   25
   23
   24
   Glucose
   102
   132
   157
   93
   100
   Other labs: PT / PTT / INR:21.2/39.2/2.0, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:33/65, Alk Phos / T Bili:188/2.4,
   Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %, Eos:0.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failulre from multifocal pneumonia, now with persistent fevers.
   1. Bacteremia: concerned due to worsening hemodynamics, growing GPCs
   - change lines
   - reculture
   - redose vanc
   2 Hypoxemic respiratory failure; seems to be due to pneumonia, though
   pleural effusions may also be contributing
   - f/u sputum culture which is growing rare GNRs which is pan-sensitive
   klebsiella.
   - cont empiric vancomycin, aztreonam, levofloxacin
   - redose vanc to trough goal 15-20, and recheck thurs am
   - wean FiO2 and increase PEEP
   - change lines
   - ARDS volume
 decreased tidal volumes and increase rate for MV target
   of 10 L/min
   3.  Hypotension: likely multifactorial from hypovolemia from stool
   losses as well as insensible losses from fevers as well as possible
   sepsis
   - CVP low, so will bolus with normal saline, and will given albumin for
   goal CVP 8-12.
   - continue levophed
   4.  Fevers: likely due to pneumonia, though persistence of fevers
   raises suspicion for additional source. No abdominal fluid.
   - remove Port, change lines
   - continue to trend fever curves
   5. Cirrhosis: grade II varices
   - cont rifaximin and lactulose for encephalopathy
   - liver input appreciated
   - currently delisted from transplant due to acute infection
   - cont to trend platelets
   6.Acute renal failure; resolved; likely prerenal due to
   hypovolmic/septic shock
   - [**Hospital1 **] lytes
   7. Anemia; source unclear; cont to trend
   - transfuse HCT <21
   8 Bloody return NG tube: appear to be trauma related, has INR 2
   - vitamin K 10 mg * 3 days
   - FFP if continues
   - hold tube feeds
   ICU Care
   Nutrition: Tube feeds: fibersource
 on hold due to small amount blood
   from NG tube
   Glycemic Control:  start HISS
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   20 Gauge - [**2130-11-11**] 02:54 PM
   Multi Lumen - [**2130-11-11**] 04:32 PM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Prophylaxis:
   DVT:  sc heparin
   Stress ulcer:  on PPI
   VAP:  precautions
   Comments:
   Communication:  Wife
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2130-11-15 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Now [**1-14**] (1 set) blood cultures positive from left IJ [**11-12**]
   subsequent cultures remain negative
   - Removed left IJ, placed R IJ
   - IR and Surgery consulted to remove right subclavian port
 will draw
   blood cultures now and hold on removal
   - Copious stool > 1liter, decreased lactulose to 30 ml QID
   - Increased rifaximin to 400 mg TID
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-14**] 06:00 PM
   Vancomycin - [**2130-11-14**] 08:00 PM
   Aztreonam - [**2130-11-15**] 04:27 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-11-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-15**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 86 (86 - 106) bpm
   BP: 101/47(65) {67/30(42) - 129/64(87)} mmHg
   RR: 26 (6 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 6 (2 - 14)mmHg
   Total In:
                                                                  5,841 mL
                                                                    796 mL
   PO:
   TF:
   IVF:
                                                                  4,171 mL
                                                                    616 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,863 mL
                                                                  1,325 mL
   Urine:
                                                                  1,933 mL
                                                                    425 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,978 mL
                                                                   -529 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 630) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/39/87.[**Numeric Identifier 7**]/24/-2
   Ve: 11.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: pupils pinpoint
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Diminished: bases)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   105 K/uL
   9.5 g/dL
   127 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   13 mg/dL
   112 mEq/L
   141 mEq/L
   26.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2130-11-14**]  03:30 AM
                             [**2130-11-14**]  05:59 AM
                             [**2130-11-14**]  09:11 AM
                             [**2130-11-14**]  09:39 AM
                             [**2130-11-14**]  09:56 AM
                             [**2130-11-14**]  12:32 PM
                             [**2130-11-14**]  02:18 PM
                             [**2130-11-14**]  05:05 PM
                             [**2130-11-15**]  03:19 AM
                             [**2130-11-15**]  04:16 AM
   WBC
   10.9
   12.1
   Hct
   28.7
   26.0
   26.3
   Plt
   111
   105
   Cr
   0.6
   0.6
   0.5
   0.6
   TropT
   <0.01
   TCO2
   24
   24
   24
   24
   23
   Glucose
   100
   139
   140
   127
   Other labs: PT / PTT / INR:18.3/41.2/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:28/61, Alk Phos / T Bili:227/2.1,
   Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %, Eos:0.8 %, Lactic
   Acid:2.1 mmol/L, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Septic shock: Likely due to pneumonia and question central line
   infection.  Pan-sensitive Klebsiella growing from sputum.  GPC in
   pairs/chains growing from 2/2 blood culture bottles from left IJ from
   [**11-12**]
 subsequent cultures negative.  Left IJ removed yesterday and
   replaced with right IJ.  Shock not responsive to fluids.
   - Continue vancomycin and check trough tomorrow morning after redosing
   yesterday
   - Continue levofloxacin; will discontinue aztreonam at this time
   - Will start vasopressin and attempt to wean norepinephrine
   - Will check central venous O2
   - Will hold further fluids at this time
   # Hypoxemic respiratory failure: Acute lung injury from pneumonia.
   Contribution of pleural effusions.
   - Continue levofloxacin; will discontinue aztreonam at this time
   - Attempt to wean PEEP
   # Cirrhosis: Complicated by encephalopathy and grade II varices.  Small
   amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy
   - Liver following; appreciate
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   - Monitor closely and appropriate wound care
   - Will change bed
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor
   # Anemia: Stable.  Normocytic, likely due to chronic disease.
   - Transfuse HCT <21
   # Bloody return from NG tube: Resolved.  Appear to be related to trauma
   in setting of  INR 2.
   - Vitamin K 10 mg PO x 3 days
   ICU Care
   Nutrition: TF
   Glycemic Control: HISS
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP: Oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvement

2130-11-15 10:52:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Lines changed
   Blood cultures now [**1-14**] for GPC
   Copious stools
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-14**] 06:00 PM
   Aztreonam - [**2130-11-15**] 04:27 AM
   Vancomycin - [**2130-11-15**] 08:00 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2130-11-15**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 92 (86 - 100) bpm
   BP: 110/50(70) {67/30(42) - 129/64(87)} mmHg
   RR: 26 (6 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 4 (4 - 12)mmHg
   Total In:
                                                                  5,841 mL
                                                                  1,477 mL
   PO:
   TF:
   IVF:
                                                                  4,171 mL
                                                                  1,047 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,863 mL
                                                                  1,805 mL
   Urine:
                                                                  1,933 mL
                                                                    905 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,978 mL
                                                                   -328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.37/39/87.[**Numeric Identifier 7**]/24/-2
   Ve: 11.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   105 K/uL
   127 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   13 mg/dL
   112 mEq/L
   141 mEq/L
   26.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2130-11-14**]  03:30 AM
                             [**2130-11-14**]  05:59 AM
                             [**2130-11-14**]  09:11 AM
                             [**2130-11-14**]  09:39 AM
                             [**2130-11-14**]  09:56 AM
                             [**2130-11-14**]  12:32 PM
                             [**2130-11-14**]  02:18 PM
                             [**2130-11-14**]  05:05 PM
                             [**2130-11-15**]  03:19 AM
                             [**2130-11-15**]  04:16 AM
   WBC
   10.9
   12.1
   Hct
   28.7
   26.0
   26.3
   Plt
   111
   105
   Cr
   0.6
   0.6
   0.5
   0.6
   TropT
   <0.01
   TCO2
   24
   24
   24
   24
   23
   Glucose
   100
   139
   140
   127
   Other labs: PT / PTT / INR:18.3/41.2/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:28/61, Alk Phos / T Bili:227/2.1,
   Differential-Neuts:81.4 %, Lymph:12.1 %, Mono:5.3 %, Eos:0.8 %, Lactic
   Acid:2.1 mmol/L, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**1-14**] PNA
 HYPOTENSION (NOT SHOCK)
   Doubt volume responsive, maintain MAP > 60. Levophed as needed. Will
   check CvO2 today and consider Vasopressin.
 PNEUMONIA, OTHER
   E. Coli  from [**11-12**] - addltional cultures pending.  Can narrow to
   single gram negative [**Doctor Last Name **] at this point.
 .H/O CIRRHOSIS OF LIVER, OTHER
   ICU Care
   Nutrition:
   Comments: Tube feeds held for high residulas
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: communication is with wife.
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan, written by Dr. [**Last Name (STitle) **].
   [**Location (un) 3012**]. I would emphasize and add the following points: 52M ESLD, E.
   Coli PNA c/b respiratory failure, ARDS. BCX + x2 GPCs; CVL replaced.
   Exam notable for Tm 97.0 BP 101/47 HR 70-90 RR 18 with sat 95 on VAC
   480x26 PEEP 12, FiO2 0.4 7.37/39/88. Minimally responsive man,
   bronchial BS B, RRR s1s2. Soft, NT +BS. 2+ edema. Labs notable for WBC
   12K, HCT 26, K+ 3.4, Cr 0.6. CXR with unchanged B ASD c/w PNA/ARDS.
   Agree with plan to continue vanco/levo/aztreonam and ongoing fluid
   resuscitation in attempt to wean pressors in the setting of septic
   shock. Will add vasopressin if unable to reduce levophed today. Will
   wean PEEP and follow ABGs while continuing ARDS vent approach. Although
   +BCX may have been due to prior CVL, I remain concerned that his
   Port-A-Cath is infected and will check cultures from that line today as
   well as discussing with PEVA team. Will continue supportive care for
   ESLD and check iron studies. OSH physician has been updated by the
   team. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min

2130-11-16 07:56:00 Physician Resident Progress Note
Chief Complaint: Pneumonia
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-15**] 01:00 PM
   Started vasopressin, but still needed levophed increases
   - CvO2 85%
   Stopped Tube Feeds due to high residuals and decreased free water
   flushes
   Attempted to decrease PEEP but resulted in decreased PaO2 and returned
   back to PEEP 12
   Stopped Aztreonam
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Aztreonam - [**2130-11-15**] 04:27 AM
   Levofloxacin - [**2130-11-15**] 06:00 PM
   Vancomycin - [**2130-11-15**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Fentanyl - 175 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-16**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: sedated unable to obtain
   Flowsheet Data as of  [**2130-11-16**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 79 (79 - 99) bpm
   BP: 97/51(69) {88/44(58) - 122/57(80)} mmHg
   RR: 26 (26 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 12 (4 - 14)mmHg
   Mixed Venous O2% Sat: 85 - 85
   Total In:
                                                                  4,102 mL
                                                                  1,596 mL
   PO:
   TF:
                                                                     70 mL
   IVF:
                                                                  2,592 mL
                                                                    916 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    860 mL
   Urine:
                                                                  1,760 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                    736 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 34.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/38/91/23/-1
   Ve: 11.4 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Wheezes : )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   135 K/uL
   9.0 g/dL
   135 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   11 mg/dL
   110 mEq/L
   138 mEq/L
   25.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2130-11-14**]  02:18 PM
                             [**2130-11-14**]  05:05 PM
                             [**2130-11-15**]  03:19 AM
                             [**2130-11-15**]  04:16 AM
                             [**2130-11-15**]  11:23 AM
                             [**2130-11-15**]  12:35 PM
                             [**2130-11-15**]  06:02 PM
                             [**2130-11-16**]  12:00 AM
                             [**2130-11-16**]  12:21 AM
                             [**2130-11-16**]  06:31 AM
   WBC
   12.1
   10.1
   Hct
   26.3
   25.1
   Plt
   105
   135
   Cr
   0.5
   0.6
   0.6
   TCO2
   24
   23
   25
   24
   23
   23
   23
   Glucose
   140
   127
   135
   Other labs: PT / PTT / INR:18.4/36.7/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:29/67, Alk Phos / T Bili:289/1.8,
   Differential-Neuts:64.0 %, Lymph:26.6 %, Mono:5.4 %, Eos:3.4 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Coag neg staph from [**2130-11-12**] in one set only
   VANC 20.3
 per pharmacy at goal
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Septic shock: Likely due to pneumonia.  Pan-sensitive Ecoli growing
   from sputum.
 coag neg staph, likely contaminant, but LIJ was removed
   [**11-14**] as a precaution.  Serial cultures no growth to date. Stopped
   aztreonam.  Shock not responsive to fluids, central venous O2 85%. On
   both vasopressin, and increasing norepinephrine.
   - Trial albumin to see if can decrease norepinephrin response
   - Continue vancomycin at current level, recheck  vanc trough monday
   - Continue levofloxacin
   - Will hold further fluids at this time
   - Recheck sputum cultures
   # Hypoxemic respiratory failure: Acute lung injury from pneumonia.
   Contribution of pleural effusions.
   - Continue levofloxacin/vancomycin
   - Attempt to wean PEEP
   # Cirrhosis: Complicated by encephalopathy and grade II varices.  Small
   amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy
 high residuals,
   increase lactulose and start raglan 5mg TID to help move stool and
   clear encephalopathy
   - Liver following; appreciate
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor
   # Anemia: Stable.  Normocytic, likely due to chronic disease.
   - Transfuse HCT <21
   # Bloody return from NG tube: Resolved.  Appear to be related to trauma
   in setting of  INR 2.
   - Vitamin K 10 mg PO x 3 days
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  HISS
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: on PPI
   VAP:  precautions, oral care
   Comments:
   Communication:  Wife
   [**Name (NI) 156**] status: Full code
   Disposition:ICU

2130-11-16 10:32:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-15**] 01:00 PM
   Increasing pressors o/n. Bld cx now speciated as CNS.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Aztreonam - [**2130-11-15**] 04:27 AM
   Levofloxacin - [**2130-11-15**] 06:00 PM
   Vancomycin - [**2130-11-15**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-11-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-16**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 81 (77 - 99) bpm
   BP: 99/53(71) {88/44(58) - 122/57(80)} mmHg
   RR: 11 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 12 (7 - 14)mmHg
   Mixed Venous O2% Sat: 85 - 85
   Total In:
                                                                  4,102 mL
                                                                  1,788 mL
   PO:
   TF:
                                                                     70 mL
   IVF:
                                                                  2,592 mL
                                                                  1,108 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                  1,360 mL
   Urine:
                                                                  1,760 mL
                                                                    760 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/38/91/23/-1
   Ve: 12.7 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right: Trace, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   135 K/uL
   135 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   11 mg/dL
   110 mEq/L
   138 mEq/L
   25.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2130-11-14**]  02:18 PM
                             [**2130-11-14**]  05:05 PM
                             [**2130-11-15**]  03:19 AM
                             [**2130-11-15**]  04:16 AM
                             [**2130-11-15**]  11:23 AM
                             [**2130-11-15**]  12:35 PM
                             [**2130-11-15**]  06:02 PM
                             [**2130-11-16**]  12:00 AM
                             [**2130-11-16**]  12:21 AM
                             [**2130-11-16**]  06:31 AM
   WBC
   12.1
   10.1
   Hct
   26.3
   25.1
   Plt
   105
   135
   Cr
   0.5
   0.6
   0.6
   TCO2
   24
   23
   25
   24
   23
   23
   23
   Glucose
   140
   127
   135
   Other labs: PT / PTT / INR:18.4/36.7/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:29/67, Alk Phos / T Bili:289/1.8,
   Differential-Neuts:64.0 %, Lymph:26.6 %, Mono:5.4 %, Eos:3.4 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**Doctor Last Name 76**] [**1-14**] VAP - can ween PEEP today.
 Septic Shock
   Bld cx now looks like a concominant, but persistent pressor
   requirement. Not responsive to fluids, Cvo2 > 70%. Drops blood pressure
   with turns (? hypoxic vasoconstriction leading toimpaired right heart
   function) Will check TTE today to eval baseline right heart function.
   Volume as needed. Cont. vasopressin/levophed.
   Resend sputum today.
   ICU Care
   Nutrition:
   Comments: [**Last Name (LF) 3029**], [**First Name3 (LF) **] to start TF today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-11-17 07:48:00 Physician Resident Progress Note
Chief Complaint: Respiratory
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-11-16**] 12:00 PM
   Some desaturations with turning--overnight had to go up on FiO2 and
   PEEP to recover from acute desat, which was then resolved more
   completely --it was noticed that turning to the right-side down
   resulted in worsening desaturations.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Aztreonam - [**2130-11-15**] 04:27 AM
   Levofloxacin - [**2130-11-16**] 06:00 PM
   Vancomycin - [**2130-11-16**] 08:14 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-17**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 86 (73 - 87) bpm
   BP: 113/63(80) {74/38(55) - 118/66(221)} mmHg
   RR: 18 (0 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 7 (7 - 14)mmHg
   Total In:
                                                                  4,209 mL
                                                                    701 mL
   PO:
   TF:
   IVF:
                                                                  2,719 mL
                                                                    512 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,505 mL
                                                                    440 mL
   Urine:
                                                                  1,565 mL
                                                                    440 mL
   NG:
                                                                    640 mL
   Stool:
   Drains:
   Balance:
                                                                  1,704 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 34.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/40/69/22/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : , Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   128 K/uL
   8.4 g/dL
   123 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   13 mg/dL
   106 mEq/L
   135 mEq/L
   23.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2130-11-15**]  11:23 AM
                             [**2130-11-15**]  12:35 PM
                             [**2130-11-15**]  06:02 PM
                             [**2130-11-16**]  12:00 AM
                             [**2130-11-16**]  12:21 AM
                             [**2130-11-16**]  06:31 AM
                             [**2130-11-16**]  11:38 AM
                             [**2130-11-16**]  04:23 PM
                             [**2130-11-17**]  04:29 AM
                             [**2130-11-17**]  04:45 AM
   WBC
   10.1
   6.4
   Hct
   25.1
   23.0
   Plt
   135
   128
   Cr
   0.6
   0.6
   TCO2
   25
   24
   23
   23
   23
   23
   23
   25
   Glucose
   135
   123
   Other labs: PT / PTT / INR:17.8/43.1/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:27/77, Alk Phos / T Bili:303/2.3,
   Differential-Neuts:64.0 %, Lymph:26.6 %, Mono:5.4 %, Eos:3.4 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   ECHO: hyperdynamic right heart
   CXR increasing pleural effusions
   Repeat sputum gram stain [**11-16**], yeast, and 1+ GNR
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Septic shock, now SIRS: Patient initially presented with septic shock
   attributed to his pan [**Last Name (un) 46**] E coli pneumonia.  Shock not responsive to
   fluids, central venous O2 85%.  Blood cultures did grow
 coag neg
   staph, likely contaminant, but LIJ was removed [**11-14**] as a precaution.
   Serial cultures no growth to date. Stopped aztreonam.  Patient now felt
   to have SIRS perhaps from lung injury vs partially treated pna
   concern for ESBL. On both vasopressin, and decreasing norepinephrine.
   - Continue vancomycin at current level, recheck  vanc trough monday
   - Continue levofloxacin
   - Add MEROPENEM
   - Will hold further fluids at this time
   - f/u sputum cultures
   - diurese if possible given pleural effusions and anasarca
   - wean propofol to help with pressor requirement
   # Hypoxemic respiratory failure: Acute lung injury from pneumonia.
   Contribution of pleural effusions.
   - Continue levofloxacin/vancomycin
   - PEEP weaned yesterday, will hold today
   - consider diuresis on pressors to help with pulmonary status
   # Cirrhosis: Complicated by encephalopathy and grade II varices.  Small
   amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy
 high residuals,
   increase lactulose and start raglan 5mg TID to help move stool and
   clear encephalopathy
   - Liver following; appreciate
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor
   # Anemia: Stable.  Normocytic, likely due to chronic disease.
   - Transfuse HCT <21
   # Bloody return from NG tube: Resolved.  Appear to be related to trauma
   in setting of  INR 2. Got vitamin K 10 mg PO x 3 days
   ICU Care
   Nutrition: start erythromycin to help with high residuals, attempt to
   start tube feeds tonight
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  precautions
   Comments:
   Communication:  wife
   [**Name (NI) 156**] status: Full code
   Disposition:ICU

2130-11-17 09:18:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-11-16**] 12:00 PM - some dilatation of RV
   with normal systolic function
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Aztreonam - [**2130-11-15**] 04:27 AM
   Levofloxacin - [**2130-11-16**] 06:00 PM
   Vancomycin - [**2130-11-17**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-17**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 78 (73 - 87) bpm
   BP: 105/47(60) {99/43(56) - 122/65(79)} mmHg
   RR: 26 (0 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 9 (7 - 14)mmHg
   Total In:
                                                                  4,209 mL
                                                                  1,027 mL
   PO:
   TF:
   IVF:
                                                                  2,719 mL
                                                                    837 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,505 mL
                                                                    490 mL
   Urine:
                                                                  1,565 mL
                                                                    490 mL
   NG:
                                                                    640 mL
   Stool:
   Drains:
   Balance:
                                                                  1,704 mL
                                                                    537 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 34.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/39/86.[**Numeric Identifier 253**]/22/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   128 K/uL
   123 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   13 mg/dL
   106 mEq/L
   135 mEq/L
   23.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2130-11-15**]  12:35 PM
                             [**2130-11-15**]  06:02 PM
                             [**2130-11-16**]  12:00 AM
                             [**2130-11-16**]  12:21 AM
                             [**2130-11-16**]  06:31 AM
                             [**2130-11-16**]  11:38 AM
                             [**2130-11-16**]  04:23 PM
                             [**2130-11-17**]  04:29 AM
                             [**2130-11-17**]  04:45 AM
                             [**2130-11-17**]  08:15 AM
   WBC
   10.1
   6.4
   Hct
   25.1
   23.0
   Plt
   135
   128
   Cr
   0.6
   0.6
   TCO2
   24
   23
   23
   23
   23
   23
   25
   24
   Glucose
   135
   123
   Other labs: PT / PTT / INR:17.8/43.1/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:27/77, Alk Phos / T Bili:303/2.3,
   Differential-Neuts:64.0 %, Lymph:26.6 %, Mono:5.4 %, Eos:3.4 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:193 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE
   ARDS - still poor oxygenation. Has increasing b/l effusion but still
   with some pressor requirement. Will try to lighten sedation and asses
   true hemodynamics with eye toward diuresis in order to improve
   oxygenation. Need to balance need to lighten sedation with desire to
   maintain low tidal volumes.
 HYPOTENSION (NOT SHOCK)
   To some extent related to sedation and baseline liver disease. will try
   to lighten propofol and titrate pressors down for MAP > 60.
 PNEUMONIA, OTHER
   e. coli from [**11-12**] sputum, on levo. Gram negative rods growing from
   more recent sputum. Will add meropenem out of concern for resitant gram
   negative (ESBL Kleb in particular).
 .H/O CIRRHOSIS OF LIVER, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-11-18 12:48:00 Physician Resident Progress Note
Chief Complaint: Multifocal PNA; Encephalopathy
   24 Hour Events:
 FEVER - 101.6
F - [**2130-11-18**] 04:00 AM
   - given albumin to help with diuresis
   - meropenem added as he was persistently febrile to cover
   ESBL/klebsiella
   - erythromycin added for motility
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-17**] 06:05 PM
   Vancomycin - [**2130-11-18**] 08:00 AM
   Meropenem - [**2130-11-18**] 12:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Propofol - 30 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   No additional history
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: icteric sclera
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated, aggitated when sedation weaned
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-11-18**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.3
C (100.9
   HR: 90 (79 - 100) bpm
   BP: 95/60(74) {95/50(65) - 107/60(74)} mmHg
   RR: 22 (4 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (10 - 313)mmHg
   Total In:
                                                                  3,203 mL
                                                                  1,724 mL
   PO:
   TF:
                                                                     54 mL
   IVF:
                                                                  2,293 mL
                                                                  1,140 mL
   Blood products:
                                                                    500 mL
                                                                    350 mL
   Total out:
                                                                  2,130 mL
                                                                  1,545 mL
   Urine:
                                                                    860 mL
                                                                    545 mL
   NG:
                                                                    570 mL
   Stool:
   Drains:
   Balance:
                                                                  1,073 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 97%
   ABG: ///22/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, anasarcic
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   coarse upper airway sounds
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   118 K/uL
   7.4 g/dL
   96 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   15 mg/dL
   107 mEq/L
   138 mEq/L
   20.3 %
   3.6 K/uL
        [image002.jpg]
                             [**2130-11-15**]  06:02 PM
                             [**2130-11-16**]  12:00 AM
                             [**2130-11-16**]  12:21 AM
                             [**2130-11-16**]  06:31 AM
                             [**2130-11-16**]  11:38 AM
                             [**2130-11-16**]  04:23 PM
                             [**2130-11-17**]  04:29 AM
                             [**2130-11-17**]  04:45 AM
                             [**2130-11-17**]  08:15 AM
                             [**2130-11-18**]  03:58 AM
   WBC
   10.1
   6.4
   3.6
   Hct
   25.1
   23.0
   20.3
   Plt
   135
   128
   118
   Cr
   0.6
   0.6
   0.6
   TCO2
   23
   23
   23
   23
   23
   25
   24
   Glucose
   135
   123
   96
   Other labs: PT / PTT / INR:18.1/50.6/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:24/78, Alk Phos / T Bili:261/2.4,
   Differential-Neuts:64.0 %, Lymph:26.6 %, Mono:5.4 %, Eos:3.4 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:200 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 .H/O CIRRHOSIS OF LIVER, OTHER
 IMPAIRED SKIN INTEGRITY
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Septic shock: Still febrile requiring NE and vasopressin. Patient
   initially presented with septic shock attributed to his pan [**Last Name (un) 46**] E coli
   pneumonia.  Shock not responsive to fluids, central venous O2 85%.
   Blood cultures did grow
 coag neg staph, likely contaminant, but LIJ
   was removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added yesterday for possible ESBL or
   klebsiella.  Having high volume liquid stool so cdiff possible.
   - Continue vancomycin/ meropenem/levofloxacin for empiric coverage
   - re-check vanc trough monday
   - f/u sputum cultures
   - send stool cx, consider adding empiric flagyl if BP drops again
   - wean propofol to help with pressor requirement
   # Hypoxemic respiratory failure: No resolving.  Now mental status is
   one of the primary causes of inability to wean.
   - Continue levofloxacin/vancomycin/meropenem as above
   - wean PEEP as able
   # Cirrhosis: Complicated by encephalopathy and grade II varices.  Small
   amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor cr
   # Anemia: Stable.  Macrocytic.  Stools guac neg.  Hct 20 today from 23.
   - check B12/Folate
   - transfuse 2 U PRBC
   - pm hct
   # Bloody return from NG tube: Resolved.  Appeared to have been related
   to trauma in setting of INR 2. Got vitamin K 10 mg PO x 3 days.
   # Thrombocytopenia: Stable. likely from cirrhosis.
   - trend for now
   # Leukopenia: unclear etiology. WBC ct 3.6 today from 6 yesterday and
   22 on admission.  ? from addition of meropenem vs bone marrow
   supression in the setting of infection.
   - trend for now
   # Elevated INR: ? from poor nutritional status vs cirrhosis.  S/p Vit K
   10 mg po X 3 days ([**Date range (1) 3107**]) w/ some improvement.
   - trend for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-11-18**] 07:30 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2130-11-19 08:40:00 Physician Resident Progress Note
Chief Complaint: Hepatic encephalopathy, Septic Shock, Respiratory
   failure
   24 Hour Events:
   Norepi weaned
   Vasopression transiently weaned but then re-started for decrease in UOP
   and SBP in the 80s
   Ammonia re-checked and was found still to be 74
   Transfused 2 U PRBC for hct 20 and hct now 27
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-18**] 06:41 PM
   Meropenem - [**2130-11-19**] 05:27 AM
   Vancomycin - [**2130-11-19**] 08:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Integumentary (skin): Jaundice
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-11-19**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 125 (71 - 125) bpm
   BP: 131/60(81) {91/48(64) - 131/63(81)} mmHg
   RR: 23 (0 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 10 (3 - 19)mmHg
   Total In:
                                                                  3,974 mL
                                                                  1,599 mL
   PO:
   TF:
                                                                    413 mL
                                                                    427 mL
   IVF:
                                                                  2,431 mL
                                                                    942 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,030 mL
                                                                    255 mL
   Urine:
                                                                  1,030 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,944 mL
                                                                  1,344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 511 (511 - 544) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   Compliance: 56.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/35/95.[**Numeric Identifier 253**]/21/-1
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Normal
   Labs / Radiology
   131 K/uL
   9.8 g/dL
   120 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   20 mg/dL
   107 mEq/L
   135 mEq/L
   26.9 %
   4.0 K/uL
        [image002.jpg]
                             [**2130-11-16**]  11:38 AM
                             [**2130-11-16**]  04:23 PM
                             [**2130-11-17**]  04:29 AM
                             [**2130-11-17**]  04:45 AM
                             [**2130-11-17**]  08:15 AM
                             [**2130-11-18**]  03:58 AM
                             [**2130-11-18**]  01:55 PM
                             [**2130-11-18**]  02:35 PM
                             [**2130-11-19**]  03:56 AM
                             [**2130-11-19**]  04:56 AM
   WBC
   6.4
   3.6
   4.0
   4.0
   Hct
   23.0
   20.3
   24.4
   26.9
   Plt
   128
   118
   123
   131
   Cr
   0.6
   0.6
   0.6
   TCO2
   23
   23
   25
   24
   24
   23
   Glucose
   123
   96
   120
   Other labs: PT / PTT / INR:18.0/42.3/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:23/73, Alk Phos / T Bili:250/2.0,
   Differential-Neuts:60.0 %, Lymph:28.0 %, Mono:7.6 %, Eos:3.5 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:200 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 .H/O CIRRHOSIS OF LIVER, OTHER
 IMPAIRED SKIN INTEGRITY
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Septic shock: Still febrile requiring vasopressin. Patient initially
   presented with septic shock attributed to his pan [**Last Name (un) 46**] E coli
   pneumonia.  Shock not responsive to fluids, central venous O2 85%.
   Blood cultures did grow
 coag neg staph, likely contaminant, but LIJ
   was removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added yesterday for possible ESBL or
   klebsiella.  Having high volume liquid stool so cdiff possible.
   - Continue vancomycin/ meropenem/levofloxacin for empiric coverage
   - re-check vanc trough monday
   - f/u sputum cultures
   - send stool cx, consider adding empiric flagyl if BP drops again
   - wean propofol to help with pressor requirement
   # Hypoxemic respiratory failure: No resolving.  Now mental status is
   one of the primary causes of inability to wean.
   - Continue levofloxacin/vancomycin/meropenem as above
   - wean PEEP as able
   # Cirrhosis: Complicated by encephalopathy and grade II varices.  Small
   amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor cr
   # Anemia: Stable.  Macrocytic.  Stools guac neg.  Hct 20 today from 23.
   - check B12/Folate
   - transfuse 2 U PRBC
   - pm hct
   # Bloody return from NG tube: Resolved.  Appeared to have been related
   to trauma in setting of INR 2. Got vitamin K 10 mg PO x 3 days.
   # Thrombocytopenia: Stable. likely from cirrhosis.
   - trend for now
   # Leukopenia: unclear etiology. WBC ct 3.6 today from 6 yesterday and
   22 on admission.  ? from addition of meropenem vs bone marrow
   supression in the setting of infection.
   - trend for now
   # Elevated INR: ? from poor nutritional status vs cirrhosis.  S/p Vit K
   10 mg po X 3 days ([**Date range (1) 3107**]) w/ some improvement.
   - trend for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-11-19**] 06:16 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2130-11-20 07:55:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   periodic episodes of open eyes (but non-interactive), high BP, high HR;
   restarted seroquel (home med); ativan boluses only temporarily helpful;
   had to restart propofol as sedation, then w/fentanyl and propofol had
   to restart vasopressin for low BP.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-19**] 06:21 PM
   Vancomycin - [**2130-11-19**] 08:23 PM
   Meropenem - [**2130-11-20**] 12:23 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-19**] 08:00 AM
   Lorazepam (Ativan) - [**2130-11-19**] 05:47 PM
   Fentanyl - [**2130-11-19**] 06:19 PM
   Heparin Sodium (Prophylaxis) - [**2130-11-20**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-20**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 108 (88 - 154) bpm
   BP: 99/50(66) {82/44(59) - 164/98(121)} mmHg
   RR: 26 (0 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 10 (7 - 19)mmHg
   Total In:
                                                                  4,048 mL
                                                                    715 mL
   PO:
   TF:
                                                                  1,354 mL
                                                                    471 mL
   IVF:
                                                                  1,664 mL
                                                                    194 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,900 mL
                                                                  1,020 mL
   Urine:
                                                                  1,600 mL
                                                                    420 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,148 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 453 (453 - 579) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 45.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/40/95.[**Numeric Identifier 252**]/23/-1
   Ve: 11.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing,
   anasarca
   Skin:  Warm, Rash: sacral decubiti
   Neurologic: Responds to: sedated, Sedated, Tone: normal
   Labs / Radiology
   135 K/uL
   8.6 g/dL
   133 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   17 mg/dL
   110 mEq/L
   139 mEq/L
   23.4 %
   3.2 K/uL
        [image002.jpg]
                             [**2130-11-17**]  04:45 AM
                             [**2130-11-17**]  08:15 AM
                             [**2130-11-18**]  03:58 AM
                             [**2130-11-18**]  01:55 PM
                             [**2130-11-18**]  02:35 PM
                             [**2130-11-19**]  03:56 AM
                             [**2130-11-19**]  04:56 AM
                             [**2130-11-19**]  02:17 PM
                             [**2130-11-19**]  08:34 PM
                             [**2130-11-20**]  03:32 AM
   WBC
   3.6
   4.0
   4.0
   3.2
   Hct
   20.3
   24.4
   26.9
   23.6
   23.4
   Plt
   118
   123
   131
   135
   Cr
   0.6
   0.6
   0.5
   TCO2
   25
   24
   24
   23
   24
   Glucose
   96
   120
   133
   Other labs: PT / PTT / INR:18.1/48.1/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:24/85, Alk Phos / T Bili:217/2.0,
   Differential-Neuts:60.0 %, Lymph:28.0 %, Mono:7.6 %, Eos:3.5 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   CXR: increasing bilateral pleural effusions
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Respiratory Failure: remains with acute lung injury. Continues
   treatment for pneumonia. Worsening fluid balance likely affecting
   ability to wean
   - levo/vanc/[**Last Name (un) **]
   - diuresis with lasix, I/O neg 1 liter
   - cont sedation as not able to extubate from vent or mental status
   standpoint: use propofol sedation, fentanyl pain
   - wean PEEP if able
   - vanc level pending for today
   # Hypotension: due to decreased SVR from liver disease, sedation.
   Change vasopressin to levophed to allow for diuresis with MAP goal >60.
   Feel patient no longer with septic physiology from infection.
   - levophed, off vasopressin
   - continue to monitor MAPs with a-line
   # Leukopenia: unclear etiology. WBC ct 3.2 today, at or under 4 for
   several days, WBC 22 on admission.  ? from addition of meropenem vs
   bone marrow supression in the setting of infection.
   - trend for now
   # Septic shock from PNA: resolved.  Patient initially presented with
   septic shock attributed to his pan [**Last Name (un) 46**] E coli pneumonia.  Shock not
   responsive to fluids, central venous O2 85%.  Blood cultures did grow
   coag neg staph, likely contaminant, but LIJ was removed [**11-14**] as a
   precaution.  Serial cultures no growth to date. Stopped aztreonam.
   Meropenem added yesterday for possible ESBL.
   - Continue vancomycin/ meropenem/levofloxacin for empiric coverage
   - vanc level pending for today - f/u sputum cultures
   - send stool cx, and c. diff cultures
   # Cirrhosis: Complicated by encephalopathy and grade II varices.  Small
   amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor cr
   # Anemia: Stable.  Macrocytic.  Stools guac neg.  Hct 20 today from 23.
   - check B12/Folate
   - pm hct
   # Thrombocytopenia: Stable. likely from cirrhosis.
   - trend for now
   # Elevated INR: ? from poor nutritional status vs cirrhosis.  S/p Vit K
   10 mg po X 3 days ([**Date range (1) 3107**]) w/ some improvement.
   - trend for now
   # Bloody return from NG tube: Resolved.  Appeared to have been related
   to trauma in setting of INR 2. Got vitamin K 10 mg PO x 3 days.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-11-19**] 10:33 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication: Patient discussed on interdisciplinary rounds and wife
   [**Name (NI) 156**] status: Full code
   Disposition:ICU

2130-11-20 10:09:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI: 52 year old man with PMH HCV chirrosis, was listed for transplant,
   now in the MICU with pneumonia, sepsis. Pan-sensitive e. coli sputum,
   on levo/vancomycin/[**Last Name (un) **] (broad coverage still as persistent G- in
   sputum. Vanc started for GPC in blood) now afebrile, with decreased
   pressor requirement.  Also with ARF at presentation but resolved with
   volume resuscitation.  Currently on levophed [**1-14**] sedation , baseline
   liver disease..  fi02 down to 0.4 and but not able to wean PEEP.
   Starting aggresive diuresis today.
   24 Hour Events:
   Back on propofol briefly for agitation.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-19**] 06:21 PM
   Meropenem - [**2130-11-20**] 12:23 AM
   Vancomycin - [**2130-11-20**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2130-11-19**] 05:47 PM
   Fentanyl - [**2130-11-19**] 06:19 PM
   Heparin Sodium (Prophylaxis) - [**2130-11-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-20**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 121 (88 - 154) bpm
   BP: 104/58(72) {82/44(59) - 164/98(121)} mmHg
   RR: 24 (0 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 14 (7 - 19)mmHg
   Total In:
                                                                  4,048 mL
                                                                  1,173 mL
   PO:
   TF:
                                                                  1,354 mL
                                                                    592 mL
   IVF:
                                                                  1,664 mL
                                                                    421 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,900 mL
                                                                  1,145 mL
   Urine:
                                                                  1,600 mL
                                                                    545 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,148 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 453 (453 - 579) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 55.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.37/40/95.[**Numeric Identifier 252**]/23/-1
   Ve: 13 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   135 K/uL
   133 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   17 mg/dL
   110 mEq/L
   139 mEq/L
   23.4 %
   3.2 K/uL
        [image002.jpg]
                             [**2130-11-17**]  04:45 AM
                             [**2130-11-17**]  08:15 AM
                             [**2130-11-18**]  03:58 AM
                             [**2130-11-18**]  01:55 PM
                             [**2130-11-18**]  02:35 PM
                             [**2130-11-19**]  03:56 AM
                             [**2130-11-19**]  04:56 AM
                             [**2130-11-19**]  02:17 PM
                             [**2130-11-19**]  08:34 PM
                             [**2130-11-20**]  03:32 AM
   WBC
   3.6
   4.0
   4.0
   3.2
   Hct
   20.3
   24.4
   26.9
   23.6
   23.4
   Plt
   118
   123
   131
   135
   Cr
   0.6
   0.6
   0.5
   TCO2
   25
   24
   24
   23
   24
   Glucose
   96
   120
   133
   Other labs: PT / PTT / INR:18.1/48.1/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:24/85, Alk Phos / T Bili:217/2.0,
   Differential-Neuts:60.0 %, Lymph:28.0 %, Mono:7.6 %, Eos:3.5 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   PNA, septic shock.
   Shock: Much improved. On norepinephrine to help with diuresis. Baseline
   low SVR in the setting of liver disease.
   Respiratory Failure: Aggressively diurese today. Aim 1-2L neg.
   Using propofol if he needs sedation
 still hypoxic. Using low Vt.
   Cirrhosis: Lactulose+ rifaximin
   Further plans as per Resident Note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-11-19**] 10:33 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-11-21 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Weaned off levophed
 back on low dose for diuresis
   - Diuresed to lasix 20 mg IV  x 3, last dose given this morning
   - Fentanyl off briefly but patient became very restless and restarted
   low dose (continued patient on propofol)
   - Vancomycin trough 28.4 this morning and decreased dose
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-20**] 06:24 PM
   Vancomycin - [**2130-11-20**] 08:00 PM
   Meropenem - [**2130-11-21**] 12:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-11-20**] 04:00 PM
   Furosemide (Lasix) - [**2130-11-21**] 07:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-21**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 104 (95 - 137) bpm
   BP: 76/39(50) {76/37(50) - 124/63(82)} mmHg
   RR: 26 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 12 (11 - 18)mmHg
   Total In:
                                                                  3,056 mL
                                                                    793 mL
   PO:
   TF:
                                                                  1,441 mL
                                                                    443 mL
   IVF:
                                                                  1,215 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                    810 mL
   Urine:
                                                                  3,525 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,369 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 48 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/38/101/25/0
   Ve: 12 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing,
   anasarca
   Skin:  Warm, Rash: sacral decubiti
   Neurologic: Responds to: sedated, Sedated, Tone: normal
   Labs / Radiology
   152 K/uL
   8.7 g/dL
   114 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   16 mg/dL
   112 mEq/L
   142 mEq/L
   23.8 %
   2.8 K/uL
        [image002.jpg]
                             [**2130-11-18**]  01:55 PM
                             [**2130-11-18**]  02:35 PM
                             [**2130-11-19**]  03:56 AM
                             [**2130-11-19**]  04:56 AM
                             [**2130-11-19**]  02:17 PM
                             [**2130-11-19**]  08:34 PM
                             [**2130-11-20**]  03:32 AM
                             [**2130-11-20**]  04:45 PM
                             [**2130-11-20**]  08:45 PM
                             [**2130-11-21**]  03:42 AM
   WBC
   4.0
   4.0
   3.2
   2.8
   Hct
   24.4
   26.9
   23.6
   23.4
   25.0
   23.8
   Plt
   123
   131
   135
   152
   Cr
   0.6
   0.5
   0.6
   TCO2
   24
   23
   24
   26
   Glucose
   120
   133
   114
   Other labs: PT / PTT / INR:17.5/42.1/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:22/75, Alk Phos / T Bili:212/1.4,
   Differential-Neuts:60.0 %, Lymph:28.0 %, Mono:7.6 %, Eos:3.5 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Respiratory failure: Remains with acute lung injury. Continues
   treatment for pneumonia. Worsening fluid balance likely affecting
   ability to wean.
   - Continue levofloxacin/meropenem to complete a seven-day course;
   discontinuing vancomycin given absence of gram positives
   - Diuresis with lasix, goal -2L today
   - Continue sedation with propofol with fentanyl as needed for agitation
 increasing seroquel to attempt to decrease agitation
   - Wean PEEP if able
   # Hypotension/Tachycardia: Due to decreased SVR from liver disease,
   sedation.  Feel patient no longer with septic physiology from
   infection.  Tachycardia likely due to pressors, agitation.
   - Change levophed to neosynephrine for tachycardia during diuresis
   - Continue sedation with propofol with fentanyl as needed for agitation
 increasing seroquel to attempt to decrease agitation
   - Continue to monitor MAPs with A-line
   # Leukopenia: Unclear etiology.  Question medication effect vs bone
   marrow supression in the setting of infection.
   - Discontinue vancomycin today
   - Continue to trend
   # Septic shock from PNA: Resolved.  Patient initially presented with
   septic shock attributed to his pan sensitive E. coli pneumonia.  Blood
   cultures did grow
 coag neg staph, likely contaminant, but LIJ was
   removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added for possible ESBL.
   - Continue levofloxacin/meropenem to complete a seven-day course;
   discontinuing vancomycin given absence of gram positives
   - C. difficile negative x 3
   # Dirty urinalysis: Yeast grew from culture.
   - Change Foley and repeat UA
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatitine
   # Anemia: Stable.  Macrocytic.  Stools guaiac negative.  Due to liver
   disease with B12/folate within normal limits.
   - Monitor daily
   # Thrombocytopenia: Stable. Due to cirrhosis.
   - Monitor daily
   # Coagulopathy: Multifactorial in the setting of cirrhosis, poor
   nutrition, and antibiotic use.  S/p Vit K 10 mg po X 3 days ([**Date range (1) 3107**])
   w/ some improvement.
   - Monitor daily
   # Bloody return from NG tube: Resolved.  Appeared to have been related
   to trauma in setting of INR 2. Got vitamin K 10 mg PO x 3 days.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-11-20**] 10:31 AM 60 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP: HOB elevation, oral care
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2130-11-21 07:40:00 Physician Resident Progress Note
Chief Complaint: Pulmonary hemorrhage, renal failure
   24 Hour Events:
   Weaned off propofol, patient tracked with eyes, restlessly moved limbs,
   tachycardic, hypertensive. Restarted low dose propofol. Given
   hematocrit drop did not attempt PS O/N.
   On Heparin hematocrit drop 25.5-22.3 and increase in pulmonary bloody
   secretions, stopped heparin. Patient received one unit pRBCs and 2
   units FFP
   Converted medications to PO given gut working
   Started captopril and uptitrated for BP control
   Stopped nitro drip
   Na fell 121 in setting volume increasing on schedule for early am HD to
   remove fluid
   last gas:
   7.35 / 34 /155
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-20**] 06:24 PM
   Vancomycin - [**2130-11-20**] 08:00 PM
   Meropenem - [**2130-11-21**] 12:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-11-20**] 04:00 PM
   Furosemide (Lasix) - [**2130-11-21**] 07:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Psychiatric / Sleep: Agitated, with lightened sedation; now increased
   sedation
   Flowsheet Data as of  [**2130-11-21**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 104 (95 - 137) bpm
   BP: 76/39(50) {76/37(50) - 124/63(82)} mmHg
   RR: 26 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 12 (11 - 18)mmHg
   Total In:
                                                                  3,056 mL
                                                                    810 mL
   PO:
   TF:
                                                                  1,441 mL
                                                                    456 mL
   IVF:
                                                                  1,215 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                    810 mL
   Urine:
                                                                  3,525 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,369 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 48 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/38/101/25/0
   Ve: 12 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   8.7 g/dL
   114 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   16 mg/dL
   112 mEq/L
   142 mEq/L
   23.8 %
   2.8 K/uL
        [image002.jpg]
                             [**2130-11-18**]  01:55 PM
                             [**2130-11-18**]  02:35 PM
                             [**2130-11-19**]  03:56 AM
                             [**2130-11-19**]  04:56 AM
                             [**2130-11-19**]  02:17 PM
                             [**2130-11-19**]  08:34 PM
                             [**2130-11-20**]  03:32 AM
                             [**2130-11-20**]  04:45 PM
                             [**2130-11-20**]  08:45 PM
                             [**2130-11-21**]  03:42 AM
   WBC
   4.0
   4.0
   3.2
   2.8
   Hct
   24.4
   26.9
   23.6
   23.4
   25.0
   23.8
   Plt
   123
   131
   135
   152
   Cr
   0.6
   0.5
   0.6
   TCO2
   24
   23
   24
   26
   Glucose
   120
   133
   114
   Other labs: PT / PTT / INR:17.5/42.1/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:22/75, Alk Phos / T Bili:212/1.4,
   Differential-Neuts:60.0 %, Lymph:28.0 %, Mono:7.6 %, Eos:3.5 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 .H/O CIRRHOSIS OF LIVER, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-11-20**] 10:31 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2130-11-21 10:32:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   HPI:
   52 year old man, hx ESLD [**1-14**] Hep c, admitted with sepsis, respiratory
   failure in the setting of PNA. Now with normalized hempdynamics and
   weanign vent settings. Started agresive diuresis yesterday.
   24 Hour Events:
   Low dose pressors started o/n in setting of propofol and lasix.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-20**] 06:24 PM
   Vancomycin - [**2130-11-20**] 08:00 PM
   Meropenem - [**2130-11-21**] 12:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2130-11-21**] 07:22 AM
   Fentanyl - [**2130-11-21**] 08:01 AM
   Propofol - [**2130-11-21**] 08:02 AM
   Pantoprazole (Protonix) - [**2130-11-21**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-21**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-21**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 126 (95 - 140) bpm
   BP: 91/47(57) {91/47(57) - 98/50(60)} mmHg
   RR: 26 (21 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 12 (11 - 15)mmHg
   Total In:
                                                                  3,056 mL
                                                                  1,103 mL
   PO:
   TF:
                                                                  1,441 mL
                                                                    611 mL
   IVF:
                                                                  1,215 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                  2,190 mL
   Urine:
                                                                  3,525 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,369 mL
                                                                 -1,087 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 48 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/38/101/25/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: edematous
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   152 K/uL
   114 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   16 mg/dL
   112 mEq/L
   142 mEq/L
   23.8 %
   2.8 K/uL
        [image002.jpg]
                             [**2130-11-18**]  01:55 PM
                             [**2130-11-18**]  02:35 PM
                             [**2130-11-19**]  03:56 AM
                             [**2130-11-19**]  04:56 AM
                             [**2130-11-19**]  02:17 PM
                             [**2130-11-19**]  08:34 PM
                             [**2130-11-20**]  03:32 AM
                             [**2130-11-20**]  04:45 PM
                             [**2130-11-20**]  08:45 PM
                             [**2130-11-21**]  03:42 AM
   WBC
   4.0
   4.0
   3.2
   2.8
   Hct
   24.4
   26.9
   23.6
   23.4
   25.0
   23.8
   Plt
   123
   131
   135
   152
   Cr
   0.6
   0.5
   0.6
   TCO2
   24
   23
   24
   26
   Glucose
   120
   133
   114
   Other labs: PT / PTT / INR:17.5/42.1/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:22/75, Alk Phos / T Bili:212/1.4,
   Differential-Neuts:60.0 %, Lymph:28.0 %, Mono:7.6 %, Eos:3.5 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   52 year old man with hypoxemic respiratory failure [**1-14**] pneumonia and
   ARDS
   Respiratory Failure - cont. agressive diuresis today with goal TBB -2L
   Tachycardia - can switch levo to neo to min beta effects. Increase
   seroquel.
   shock - resolved.
   Pneumonia - levo + vanc + [**Last Name (un) **]. Will stop vanc today. levo/[**Last Name (un) **] for
   total 8 day course.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-11-20**] 10:31 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-11-22 07:54:00 Physician Resident Progress Note
Chief Complaint: respiratory failure, end stage liver disease
   24 Hour Events:
 URINE CULTURE - At [**2130-11-21**] 01:08 PM
 EKG - At [**2130-11-21**] 02:00 PM
   - Diuresed -2L yesterday
   - Changed levophed to neosynephrine
   - Increased seroquel from 200 mg [**Hospital1 **] to 300 mg [**Hospital1 **]
   - Attempted to wean PEEP but blood pressure dropped
   - Discontinued vancomycin
   - Changed the Foley and resent urine culture
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2130-11-20**] 08:00 PM
   Levofloxacin - [**2130-11-21**] 06:00 PM
   Meropenem - [**2130-11-22**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 25 mcg/Kg/min
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2130-11-21**] 08:01 AM
   Propofol - [**2130-11-21**] 08:02 AM
   Pantoprazole (Protonix) - [**2130-11-21**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-21**] 04:00 PM
   Furosemide (Lasix) - [**2130-11-21**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-11-22**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 93 (93 - 140) bpm
   BP: 105/50(69) {88/42(56) - 124/76(94)} mmHg
   RR: 26 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (9 - 12)mmHg
   Total In:
                                                                  3,096 mL
                                                                    901 mL
   PO:
   TF:
                                                                  1,267 mL
                                                                    275 mL
   IVF:
                                                                  1,239 mL
                                                                    506 mL
   Blood products:
   Total out:
                                                                  4,460 mL
                                                                    275 mL
   Urine:
                                                                  3,110 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,364 mL
                                                                    626 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/34/106/28/2
   Ve: 11.9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   189 K/uL
   8.8 g/dL
   115 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   25.3 %
   2.7 K/uL
        [image002.jpg]
                             [**2130-11-19**]  02:17 PM
                             [**2130-11-19**]  08:34 PM
                             [**2130-11-20**]  03:32 AM
                             [**2130-11-20**]  04:45 PM
                             [**2130-11-20**]  08:45 PM
                             [**2130-11-21**]  03:42 AM
                             [**2130-11-21**]  11:07 AM
                             [**2130-11-21**]  01:22 PM
                             [**2130-11-21**]  05:00 PM
                            [**2130-11-22**]  03:33 AM
   WBC
   3.2
   2.8
   2.7
   Hct
   23.6
   23.4
   25.0
   23.8
   25.3
   Plt
   135
   152
   189
   Cr
   0.5
   0.6
   0.5
   0.6
   TCO2
   24
   26
   29
   27
   Glucose
   133
   114
   110
   115
   Other labs: PT / PTT / INR:17.5/38.1/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:21/66, Alk Phos / T Bili:208/1.3,
   Differential-Neuts:74.0 %, Band:5.0 %, Lymph:8.0 %, Mono:10.0 %,
   Eos:1.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Sputum [**11-19**] only grew rare yeast
   C. diff negative *3
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Respiratory failure: Remains with acute lung injury. Continues
   treatment for pneumonia. Worsening fluid balance likely affecting
   ability to wean.
   - Continue levofloxacin/meropenem to complete a seven-day course;
   discontinuing vancomycin given absence of gram positives
   - Diuresis with lasix, goal -2L today
   - Continue sedation with propofol with fentanyl as needed for agitation
 increasing seroquel to attempt to decrease agitation
   - Wean PEEP if able
   # Hypotension/Tachycardia: Due to decreased SVR from liver disease,
   sedation.  Feel patient no longer with septic physiology from
   infection.  Tachycardia likely due to pressors, agitation.
   - Change levophed to neosynephrine for tachycardia during diuresis
   - Continue sedation with propofol with fentanyl as needed for agitation
 increasing seroquel to attempt to decrease agitation
   - Continue to monitor MAPs with A-line
   # Leukopenia: Unclear etiology.  Question medication effect vs bone
   marrow supression in the setting of infection.
   - Discontinue vancomycin today
   - Continue to trend
   # Septic shock from PNA: Resolved.  Patient initially presented with
   septic shock attributed to his pan sensitive E. coli pneumonia.  Blood
   cultures did grow
 coag neg staph, likely contaminant, but LIJ was
   removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added for possible ESBL.
   - Continue levofloxacin/meropenem to complete a seven-day course;
   discontinuing vancomycin given absence of gram positives
   - C. difficile negative x 3
   # Dirty urinalysis: Yeast grew from culture.
   - Change Foley and repeat UA
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatitine
   # Anemia: Stable.  Macrocytic.  Stools guaiac negative.  Due to liver
   disease with B12/folate within normal limits.
   - Monitor daily
   # Thrombocytopenia: Stable. Due to cirrhosis.
   - Monitor daily
   # Coagulopathy: Multifactorial in the setting of cirrhosis, poor
   nutrition, and antibiotic use.  S/p Vit K 10 mg po X 3 days ([**Date range (1) 3107**])
   w/ some improvement.
   -          Monitor daily
   -
   # Bloody return from NG tube: Resolved.  Appeared to have been related
   to trauma in setting of INR 2. Got vitamin K 10 mg PO x 3 days.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-11-22**] 02:47 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2130-11-22 11:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   HPI:
   52 year old man with ESLD, respiratory failure/ARDS [**1-14**] multi-focal
   pneumonia. Now with weaning vent settings and attempting aggresive
   diuresis.
   Persistent low grade fever.
   24 Hour Events:
 URINE CULTURE - At [**2130-11-21**] 01:08 PM
 EKG - At [**2130-11-21**] 02:00 PM
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2130-11-20**] 08:00 PM
   Levofloxacin - [**2130-11-21**] 06:00 PM
   Meropenem - [**2130-11-22**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2130-11-21**] 05:30 PM
   Pantoprazole (Protonix) - [**2130-11-22**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-22**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-22**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 126 (93 - 128) bpm
   BP: 93/41(53) {93/41(53) - 93/41(53)} mmHg
   RR: 26 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 13 (9 - 13)mmHg
   Total In:
                                                                  3,096 mL
                                                                  1,256 mL
   PO:
   TF:
                                                                  1,267 mL
                                                                    374 mL
   IVF:
                                                                  1,239 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                  4,460 mL
                                                                    375 mL
   Urine:
                                                                  3,110 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,364 mL
                                                                    881 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/34/106/28/2
   Ve: 11.9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  no new rash
   Neurologic: Sedated, unresponsive. RN reports he opened eyes with
   movement and reacted against ventilator when sedation was lightened. On
   my exam, unresponsive.
   Labs / Radiology
   8.8 g/dL
   189 K/uL
   115 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   25.3 %
   2.7 K/uL
        [image002.jpg]
                             [**2130-11-19**]  02:17 PM
                             [**2130-11-19**]  08:34 PM
                             [**2130-11-20**]  03:32 AM
                             [**2130-11-20**]  04:45 PM
                             [**2130-11-20**]  08:45 PM
                             [**2130-11-21**]  03:42 AM
                             [**2130-11-21**]  11:07 AM
                             [**2130-11-21**]  01:22 PM
                             [**2130-11-21**]  05:00 PM
                            [**2130-11-22**]  03:33 AM
   WBC
   3.2
   2.8
   2.7
   Hct
   23.6
   23.4
   25.0
   23.8
   25.3
   Plt
   135
   152
   189
   Cr
   0.5
   0.6
   0.5
   0.6
   TCO2
   24
   26
   29
   27
   Glucose
   133
   114
   110
   115
   Other labs: PT / PTT / INR:17.5/38.1/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:21/66, Alk Phos / T Bili:208/1.3,
   Differential-Neuts:74.0 %, Band:5.0 %, Lymph:8.0 %, Mono:10.0 %,
   Eos:1.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   52 y/o man with ESLD and ARDS. VAP. Persistent leucopenia. Low grade
   fevers.
   ##Leukopenia with relative Bandemia - [**Name2 (NI) **] positive cultures. Vancomycin
   discontinued yesterday. Reculture today. Consider diagnostic para.
   Higher suspicion for med effect than for new infection but will culture
   broadly as above. D/C levo. Continue [**Last Name (un) 350**] for 8 day course. USG for
   ascites/diagnostic para.
   ##VAP - Continue [**Last Name (un) **] for total 8 day course(today is day [**4-20**]).
   ##respiratory failure  - [**Doctor Last Name 76**] + volume overload. Needs agressive
   diuresis today. Continue low Vt , PEEP 10. Lasix gtt today for TBB - 2L
   today.
   ##Hypotension - Neo for MAP > 60.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-11-22**] 02:47 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-11-23 08:01:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-22**] 01:02 PM
 SPUTUM CULTURE - At [**2130-11-22**] 01:02 PM
 ULTRASOUND - At [**2130-11-22**] 02:04 PM
 PARACENTESIS - At [**2130-11-22**] 04:04 PM -- took off 2L
   Diuresed negative 4 liters
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2130-11-20**] 08:00 PM
   Levofloxacin - [**2130-11-21**] 06:00 PM
   Meropenem - [**2130-11-23**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 8 mg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-22**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-22**] 04:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-23**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 88 (86 - 127) bpm
   BP: 104/49(68) {81/44(54) - 131/66(87)} mmHg
   RR: 26 (11 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 12 (10 - 16)mmHg
   Total In:
                                                                  2,994 mL
                                                                  1,054 mL
   PO:
   TF:
                                                                    840 mL
                                                                    279 mL
   IVF:
                                                                  1,704 mL
                                                                    695 mL
   Blood products:
   Total out:
                                                                  6,995 mL
                                                                  3,500 mL
   Urine:
                                                                  4,095 mL
                                                                  3,000 mL
   NG:
   Stool:
   Drains:
                                                                  2,000 mL
   Balance:
                                                                 -4,001 mL
                                                                 -2,445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 48 cmH2O/mL
   SpO2: 98%
   ABG: 7.48/41/87/30/6
   Ve: 11 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: voice occasionally, but somnulent, Movement:
   Sedated, Tone: normal
   Labs / Radiology
   201 K/uL
   9.5 g/dL
   137 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.2 mEq/L
   16 mg/dL
   103 mEq/L
   139 mEq/L
   26.7 %
   3.5 K/uL
        [image002.jpg]
                             [**2130-11-20**]  08:45 PM
                             [**2130-11-21**]  03:42 AM
                             [**2130-11-21**]  11:07 AM
                             [**2130-11-21**]  01:22 PM
                             [**2130-11-21**]  05:00 PM
                            [**2130-11-22**]  03:33 AM
                            [**2130-11-22**]  12:44 PM
                            [**2130-11-22**]  04:47 PM
                            [**2130-11-23**]  12:40 AM
                            [**2130-11-23**]  03:58 AM
   WBC
   2.8
   2.7
   3.5
   Hct
   23.8
   25.3
   26.7
   Plt
   152
   189
   201
   Cr
   0.6
   0.5
   0.6
   0.5
   0.5
   TCO2
   26
   29
   27
   28
   31
   Glucose
   114
   110
   115
   109
   137
   Other labs: PT / PTT / INR:17.4/38.3/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:21/66, Alk Phos / T Bili:208/1.3
   Albumin:2.5 g/dL, LDH:192 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.8
   mg/dL
   Peritoneal Fluid: WBC 21, RBC 21, albumin <1, total protein 0.5, LDH
   35, triglycerides <110
   Blood and repeat sputum with no growth to date
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Respiratory failure: Remains with acute lung injury vs. fluid
   overload. Continues treatment for pneumonia.
   - Meropenem day [**5-21**]
   - Hold lasix, given contraction alkalosis to preserve  negative 2
   liters
   - Continue sedation with propofol with fentanyl as needed for agitation
 increasing seroquel to attempt to decrease agitation
   - Wean PEEP and sedation given clinical improvement
   - SBT tomorrow
   - check pm ABG
 may need acetazolamide
   # Leukopenia and Bandemia: Improving off vancomycin and levofloxacin.
   Question medication effect vs bone marrow supression in the setting of
   infection and/or Hepatitis C. Bandemia from several days ago likely may
   be  recovery. s/p paracentesis with transudative effusion.
   - F/U Pan culture
 all results negative to date
   - Continue to trend
   # Hypotension/Tachycardia: Due to decreased SVR from liver disease,
   sedation.  Feel patient no longer with septic physiology from
   infection.  Tachycardia likely due to pressors, agitation.
   - On neosynephrine during diuresis
   - Continue seroquel
   - Wean sedation with propofol with fentanyl as needed for agitation
   - Continue to monitor MAPs with A-line
   # Septic shock from PNA: Resolved.  Patient initially presented with
   septic shock attributed to his pan sensitive E. coli pneumonia.  Blood
   cultures did grow
 coag neg staph, likely contaminant, but LIJ was
   removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added for possible ESBL.  C. difficile
   negative x 3
   -Meropenem day [**4-20**]
   # Dirty urinalysis: Yeast grew from culture.
   - Change Foley and repeat urine culture pending
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatitine
   # Anemia: Stable.  Macrocytic.  Stools guaiac negative.  Due to liver
   disease with B12/folate within normal limits.
   - Monitor daily
   # Thrombocytopenia: Stable. Due to cirrhosis.
   - Monitor daily
   # Coagulopathy: Multifactorial in the setting of cirrhosis, poor
   nutrition, and antibiotic use.  S/p Vit K 10 mg po X 3 days ([**Date range (1) 3107**])
   w/ some improvement.
   -          Monitor daily
   # Bloody return from NG tube: Resolved.  Appeared to have been related
   to trauma in setting of INR 2. Got vitamin K 10 mg PO x 3 days. INR
   improved.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-11-23**] 05:06 AM 35 mL/hour
   Glycemic Control:  Comments: insulin
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: PEEP too high for daily wake up, but trial in am
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2130-11-23 11:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI: 52 year old man with ESLD [**1-14**] Hep c, admitted with ARDS [**1-14**]
   multifocal pneumonia.
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-22**] 01:02 PM
 SPUTUM CULTURE - At [**2130-11-22**] 01:02 PM
 ULTRASOUND - At [**2130-11-22**] 02:04 PM
 PARACENTESIS - At [**2130-11-22**] 04:04 PM
   -4l yesterday.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2130-11-20**] 08:00 PM
   Levofloxacin - [**2130-11-21**] 06:00 PM
   Meropenem - [**2130-11-23**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 6 mg/hour
   Propofol - 25 mcg/Kg/min
   Phenylephrine - 3.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-23**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-23**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-23**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 105 (86 - 127) bpm
   BP: 99/50(67) {78/41(54) - 131/66(87)} mmHg
   RR: 17 (0 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85 kg (admission): 80 kg
   Height: 65 Inch
   CVP: 11 (10 - 16)mmHg
   Total In:
                                                                  2,994 mL
                                                                  1,593 mL
   PO:
   TF:
                                                                    840 mL
                                                                    380 mL
   IVF:
                                                                  1,704 mL
                                                                  1,083 mL
   Blood products:
   Total out:
                                                                  6,995 mL
                                                                  4,620 mL
   Urine:
                                                                  4,095 mL
                                                                  3,920 mL
   NG:
   Stool:
   Drains:
                                                                  2,000 mL
   Balance:
                                                                 -4,001 mL
                                                                 -3,027 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 48 cmH2O/mL
   SpO2: 98%
   ABG: 7.48/41/87.[**Numeric Identifier 7**]/30/6
   Ve: 11 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   201 K/uL
   137 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.2 mEq/L
   16 mg/dL
   103 mEq/L
   139 mEq/L
   26.7 %
   3.5 K/uL
        [image002.jpg]
                             [**2130-11-20**]  08:45 PM
                             [**2130-11-21**]  03:42 AM
                             [**2130-11-21**]  11:07 AM
                             [**2130-11-21**]  01:22 PM
                             [**2130-11-21**]  05:00 PM
                            [**2130-11-22**]  03:33 AM
                            [**2130-11-22**]  12:44 PM
                            [**2130-11-22**]  04:47 PM
                            [**2130-11-23**]  12:40 AM
                            [**2130-11-23**]  03:58 AM
   WBC
   2.8
   2.7
   3.5
   Hct
   23.8
   25.3
   26.7
   Plt
   152
   189
   201
   Cr
   0.6
   0.5
   0.6
   0.5
   0.5
   TCO2
   26
   29
   27
   28
   31
   Glucose
   114
   110
   115
   109
   137
   Other labs: PT / PTT / INR:17.4/38.3/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:21/66, Alk Phos / T Bili:208/1.3,
   Differential-Neuts:74.0 %, Band:5.0 %, Lymph:8.0 %, Mono:10.0 %,
   Eos:1.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   52 year old man with hypoxemic respiratory failure [**1-14**] pneumonia , ARDS
   1) resp failure - meropenem day [**5-21**]. -4L yesterday, already -2L today
   with metabolic alkalosis. We will stop lasix drip now and aim to run
   even.
   2) Sedation - move to bolus fentanyl prior to care etc, propfol off in
   am for SBT.
   3) shock - Neo for MAP > 60. Likely sedation related at this point.
   4) Leukopenia - resolving. cultures negative.
   further plans as per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-11-23**] 05:06 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-11-24 08:02:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-23**] 09:18 PM
 URINE CULTURE - At [**2130-11-23**] 09:18 PM
 SPUTUM CULTURE - At [**2130-11-24**] 12:16 AM
   Weaned PEEP to 5
   Weaned sedation
   ABG 7.58/33/96 gave 500,g iv acetazolamide
   Repleted K
   Febrile O/N 100.8 and cultured
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-21**] 06:00 PM
   Meropenem - [**2130-11-24**] 05:50 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Phenylephrine - 2.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-23**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-23**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-11-24**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 84 (71 - 125) bpm
   BP: 102/51(68) {78/40(54) - 122/64(86)} mmHg
   RR: 26 (0 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 80 kg
   Height: 65 Inch
    CVP: 11 (5 - 15)mmHg
   Total In:
                                                                  3,058 mL
                                                                    480 mL
   PO:
   TF:
                                                                    747 mL
   IVF:
                                                                  1,991 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  5,590 mL
                                                                  1,380 mL
   Urine:
                                                                  4,740 mL
                                                                    680 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                 -2,532 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: 7.56/33/111/29/8
   Ve: 11.3 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, occ opens eyes to voice
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   240 K/uL
   9.6 g/dL
   119
   0.5 mg/dL
   29 mEq/L
   3.2 mEq/L
   17 mg/dL
   105 mEq/L
   139 mEq/L
   26.7 %
   5.9 K/uL
        [image002.jpg]
                            [**2130-11-22**]  04:47 PM
                            [**2130-11-23**]  12:40 AM
                            [**2130-11-23**]  03:58 AM
                            [**2130-11-23**]  02:34 PM
                            [**2130-11-23**]  02:43 PM
                            [**2130-11-23**]  08:57 PM
                            [**2130-11-24**]  12:00 AM
                            [**2130-11-24**]  02:57 AM
                            [**2130-11-24**]  03:16 AM
                            [**2130-11-24**]  06:00 AM
   WBC
   3.5
   5.9
   Hct
   26.7
   26.7
   Plt
   201
   240
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   31
   32
   30
   Glucose
   109
   137
   116
   133
   101
   119
   Other labs: PT / PTT / INR:18.2/69.7/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:23/80, Alk Phos / T Bili:202/1.5,
   Differential-Neuts:74.0 %, Band:5.0 %, Lymph:8.0 %, Mono:10.0 %,
   Eos:1.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Respiratory failure: Remains with acute lung injury vs. fluid
   overload. Continues treatment for pneumonia.
   - Meropenem day [**6-20**]
   - Hold lasix, given contraction alkalosis to preserve  negative 2
   liters
   - Continue sedation with propofol with fentanyl as needed for agitation
 increasing seroquel to attempt to decrease agitation
   - Wean PEEP at 5
   # Leukopenia and Bandemia: Improving off vancomycin and levofloxacin.
   Question medication effect vs bone marrow supression in the setting of
   infection and/or Hepatitis C. Bandemia from several days ago likely may
   be  recovery. s/p paracentesis with transudative effusion.
   - F/U Pan culture
 all results negative to date
   - Continue to trend
   # Hypotension/Tachycardia: Due to decreased SVR from liver disease,
   sedation.  Feel patient no longer with septic physiology from
   infection.  Tachycardia likely due to pressors, agitation.
   - On neosynephrine during diuresis
   - Continue seroquel
   - Wean sedation with propofol with fentanyl as needed for agitation
   - Continue to monitor MAPs with A-line
   # Septic shock from PNA: Resolved.  Patient initially presented with
   septic shock attributed to his pan sensitive E. coli pneumonia.  Blood
   cultures did grow
 coag neg staph, likely contaminant, but LIJ was
   removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added for possible ESBL.  C. difficile
   negative x 3
   -Meropenem day [**6-20**]
   # Dirty urinalysis: Yeast grew from culture.
   - Change Foley and repeat urine culture pending
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatitine
   # Anemia: Stable.  Macrocytic.  Stools guaiac negative.  Due to liver
   disease with B12/folate within normal limits.
   - Monitor daily
   # Thrombocytopenia: Stable. Due to cirrhosis
   - Monitor daily
   # Coagulopathy: Multifactorial in the setting of cirrhosis, poor
   nutrition, and antibiotic use.  S/p Vit K 10 mg po X 3 days ([**Date range (1) 3107**])
   w/ some improvement.
   -          Monitor daily
   # Bloody return from NG tube: Resolved.  Appeared to have been related
   to trauma in setting of INR 2. Got vitamin K 10 mg PO x 3 days. INR
   improved.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  not needed
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT:  sc heparin
   Stress ulcer: PPI
   VAP:  precautions
   Communication:  wife
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2130-11-24 10:13:00 Physician Attending Progress Note
Chief Complaint: Spesis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   52 y/o man with ESLC [**1-14**] Hep C admitted with sepsis , ARDS [**1-14**]
   multifocal pneumonia. No organism grown, completing course of empiric
   abx regimen now weaning vent settings.
   24 Hour Events:
   T to 100.8 o/n
   Some metabolic alkalosis yest
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Levofloxacin - [**2130-11-21**] 06:00 PM
   Meropenem - [**2130-11-24**] 05:50 AM
   Infusions:
   Phenylephrine - 2.4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-24**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 124 (71 - 124) bpm
   BP: 87,118/42(55) {84/40(55) - 87,118/64(86)} mmHg
   RR: 23 (0 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
   CVP: 10 (5 - 15)mmHg
   Total In:
                                                                  3,058 mL
                                                                    523 mL
   PO:
   TF:
                                                                    747 mL
   IVF:
                                                                  1,991 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                  5,590 mL
                                                                  1,620 mL
   Urine:
                                                                  4,740 mL
                                                                    920 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                 -2,532 mL
                                                                 -1,097 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 650 (650 - 650) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 12 cmH2O
   SpO2: 94%
   ABG: 7.56/33/111/29/8
   Ve: 6.5 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   240 K/uL
   119
   0.5 mg/dL
   29 mEq/L
   3.2 mEq/L
   17 mg/dL
   105 mEq/L
   139 mEq/L
   26.7 %
   5.9 K/uL
        [image002.jpg]
                            [**2130-11-22**]  04:47 PM
                            [**2130-11-23**]  12:40 AM
                            [**2130-11-23**]  03:58 AM
                            [**2130-11-23**]  02:34 PM
                            [**2130-11-23**]  02:43 PM
                            [**2130-11-23**]  08:57 PM
                            [**2130-11-24**]  12:00 AM
                            [**2130-11-24**]  02:57 AM
                            [**2130-11-24**]  03:16 AM
                            [**2130-11-24**]  06:00 AM
   WBC
   3.5
   5.9
   Hct
   26.7
   26.7
   Plt
   201
   240
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   31
   32
   30
   Glucose
   109
   137
   116
   133
   101
   119
   Other labs: PT / PTT / INR:18.2/69.7/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:23/80, Alk Phos / T Bili:202/1.5,
   Differential-Neuts:74.0 %, Band:5.0 %, Lymph:8.0 %, Mono:10.0 %,
   Eos:1.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   52 y/o man with PMH Hep C, ESLD admitted with sepsis and ARDS [**1-14**]
   multifocal pneumonia. Plan as per resident note. Briefly, making steady
   progress on the vent. Still appears to be sig. volume overloaded.
   Metabolic alkalosis with sig. neo dose so likely intravascular
   depeltion and total body overload. Will give albumin today and titrate
   neo for MAP > 55. Fentanyl is now off, continue to try and min sedation
   with aim for SBT in am.  Completing course of meropenenem for PNA.
   Overall, seems to be improving but still somewhat labile.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2130-11-25 07:38:00 Physician Attending Progress Note
Chief Complaint: sepsis
   Patient seen and examined with the MICU resident.  Agree with his/her
   note, including the impression and plan.
   HPI:
   52 yo M w/ESLD [**1-14**] HCV a/w sepsis, ARDS [**1-14**] multifocal pneumonia.  No
   organism isolated, completing empiric course of abx.  Now weaning
   vent.
   24 Hour Events:
   Spiked temp to 100.8, pan cx
d including BAL.
   Neo off since 5pm yest.
 Bld cx from [**11-23**] w/GPC, vanco started.
   Moderate secretions, great cough.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Meropenem - [**2130-11-25**] 01:02 AM
   Vancomycin - [**2130-11-25**] 06:23 AM
   Infusions:
   Propofol 25
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-25**] 01:01 AM
   Other medications:
   Reglan 5mg tid
   Erythromycin q6
   Lactulose tid
   Peridex
   Insulin sliding scale
   Rifaximin
   Seroquel
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-25**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 110 (91 - 126) bpm
   BP: 118/56(75) {82/40(51) - 87,118/57(77)} mmHg
   RR: 19 (0 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
   CVP: 11 (9 - 245)mmHg
   Total In:
                                                                  2,420 mL
                                                                    912 mL
   PO:
   TF:
                                                                    408 mL
                                                                    267 mL
   IVF:
                                                                  1,193 mL
                                                                    466 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,985 mL
                                                                  1,090 mL
   Urine:
                                                                  1,885 mL
                                                                    740 mL
   NG:
   Stool:
                                                                  1,100 mL
                                                                    350 mL
   Drains:
   Balance:
                                                                   -565 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 435 (365 - 650) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/41/109/26/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Intubated, sedated, arouses to voice, follows commands
   BS clear anteriorly, decreased laterally b/l
   Nl s1s2, regular, tachy
   Abd soft, NT, ND, hypoactive BS
   Ext warm
   +Anasarca
   Labs / Radiology
   7.8 g/dL
   174 K/uL
   113 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   14 mg/dL
   110 mEq/L
   140 mEq/L
   22.5 %
   2.1 K/uL
        [image002.jpg]
                            [**2130-11-23**]  02:43 PM
                            [**2130-11-23**]  08:57 PM
                            [**2130-11-24**]  12:00 AM
                            [**2130-11-24**]  02:57 AM
                            [**2130-11-24**]  03:16 AM
                            [**2130-11-24**]  06:00 AM
                            [**2130-11-24**]  10:01 AM
                            [**2130-11-24**]  03:10 PM
                            [**2130-11-25**]  05:00 AM
                            [**2130-11-25**]  05:09 AM
   WBC
   5.9
   2.1
   Hct
   26.7
   22.5
   Plt
   240
   174
   Cr
   0.5
   0.5
   TCO2
   31
   32
   30
   27
   30
   28
   Glucose
   133
   101
   119
   113
   Other labs: PT / PTT / INR:16.9/47.7/1.5, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:21/82, Alk Phos / T Bili:163/1.2,
   Differential-Neuts:74.0 %, Band:5.0 %, Lymph:8.0 %, Mono:10.0 %,
   Eos:1.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Portable CXR
 ETT position ok, R IJ ends in RA, no significant change
   c/w prior
   Assessment and Plan
   See resident note for full details.
   52 yo M w/HCV, ESLD a/w sepsis and ARDS [**1-14**] multifocal pneumonia.
   Making steady progress on the vent and also off pressors.
   -Respiratory failure [**1-14**] multifocal pna, no organism isolated.
   Finishes 8d course of Meropenem today.  Currently on minimal vent
   support w/good oxygenation and ventilation.  Improving responsiveness,
   cont to lighten sedation- may need low dose prn Ativan for anxiety.
   Aim to extubate tomorrow (hold TF in am).
   -Sepsis- off pressors w/stable hemodynamics.
   -GPC in blood- likely contaminant but continue vanco for now.  f/u
   speciation and surveillance cxs.
   -Heme- all cell lines down, will repeat CBC.
   -ESLD- liver function stable.  Cont Lactulose, rifaximin.  Liver
   following- currently inactive on transplant list [**1-14**] infection.
   -FEN- I/O goal even, cont TF.
   -Stage II sacral decub- cont wound care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-11-24**] 10:21 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Protonix
   VAP: peridex, HOB elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  30min

2130-11-25 08:13:00 Physician Resident Progress Note
Chief Complaint: liver failure, s/p multifocal pneumonia, ARDS
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-24**] 09:29 PM
   x2
 URINE CULTURE - At [**2130-11-24**] 09:30 PM
 STOOL CULTURE - At [**2130-11-24**] 09:30 PM
 BAL FLUID CULTURE - At [**2130-11-24**] 09:30 PM
   - Albumin 75 gm x 1
   - Neosynephrine off since [**11-24**] 17:00
   - Spiked temperature to 100.8 and pan-cultured
   - Blood culture from [**11-23**] positive for GPC -> started vancomycin
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Meropenem - [**2130-11-25**] 01:02 AM
   Vancomycin - [**2130-11-25**] 06:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-11-25**] 01:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2130-11-25**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 110 (91 - 126) bpm
   BP: 118/56(75) {82/40(51) - 87,118/57(77)} mmHg
   RR: 19 (0 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
    CVP: 11 (9 - 245)mmHg
   Total In:
                                                                  2,420 mL
                                                                    932 mL
   PO:
   TF:
                                                                    408 mL
                                                                    282 mL
   IVF:
                                                                  1,193 mL
                                                                    470 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,985 mL
                                                                  1,090 mL
   Urine:
                                                                  1,885 mL
                                                                    740 mL
   NG:
   Stool:
                                                                  1,100 mL
                                                                    350 mL
   Drains:
   Balance:
                                                                   -565 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (365 - 650) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/41/109/26/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : on
   limited anterior exam)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   7.8 g/dL
   113 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   14 mg/dL
   110 mEq/L
   140 mEq/L
   22.5 %
   2.1 K/uL
        [image002.jpg]
                            [**2130-11-23**]  02:43 PM
                            [**2130-11-23**]  08:57 PM
                            [**2130-11-24**]  12:00 AM
                            [**2130-11-24**]  02:57 AM
                            [**2130-11-24**]  03:16 AM
                            [**2130-11-24**]  06:00 AM
                            [**2130-11-24**]  10:01 AM
                            [**2130-11-24**]  03:10 PM
                            [**2130-11-25**]  05:00 AM
                            [**2130-11-25**]  05:09 AM
   WBC
   5.9
   2.1
   Hct
   26.7
   22.5
   Plt
   240
   174
   Cr
   0.5
   0.5
   TCO2
   31
   32
   30
   27
   30
   28
   Glucose
   133
   101
   119
   113
   Other labs: PT / PTT / INR:16.9/47.7/1.5, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:21/82, Alk Phos / T Bili:163/1.2,
   Differential-Neuts:74.0 %, Band:5.0 %, Lymph:8.0 %, Mono:10.0 %,
   Eos:1.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:192 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HEPATIC ENCEPHALOPATHY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 .H/O CIRRHOSIS OF LIVER, OTHER
 IMPAIRED SKIN INTEGRITY
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Respiratory failure: [**Doctor Last Name 76**] resolving; P/F = 273. Likely partly due to
   fluid overload, no sign of ongoing pneumonia at this point. He is doing
   well on pressure support and clearly is improving.
   - Meropenem day [**7-21**]
 d/c at end of day
   - I/O even
   - d/c fentanyl drip and use bolus fentanyl for turns
   # Hypotension/Tachycardia: stable after backing off from more
   aggressive diuresis.
   -          MAP goal 55
   -          Gentler diuresis today, goal 1L negative.
   -          Off pressors now, remaining stable.
   # Pancytopenia/Low grade Fever: Appears to have returned to low-grade
   fever and leucopenia as well as low Hct and Plts; this is immediately
   after starting vancomycin but actually probably too quick from start of
   med to drop in counts to attribute directly to vanco. [**Month (only) 8**] be artifact
   of dilution from fluid shifts given rapid change in setting of albumin
   administration, stopping diuresis yesterday, etc.
   - F/U Pan culture, CIS > 100.5
 all results negative to date
   - Continue to trend
   - Repeat check CBC today, retics as measure of production
   - Transfuse for <25
   - If continued decline consider replacing vancomycin despite time
   course not matching well
   # Septic shock from PNA: Resolved.  Patient initially presented with
   septic shock attributed to his pan sensitive E. coli pneumonia.  Blood
   cultures did grow
 coag neg staph, likely contaminant, but LIJ was
   removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added for possible ESBL.  C. difficile
   negative x 3
   -Meropenem day [**7-21**]
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatitine
   # Anemia: Drop in Hct along with other cells (see above in
   pancytopenia); fluid shift artifact vs global production deficit.
   Macrocytic.  Stools guaiac negative.  Due to liver disease with
   B12/folate within normal limits.
   - Monitor daily
   # Thrombocytopenia: Generally has been stable; see above re
   pancytopenia. In the past have attributed this to cirrhosis which
   remains his most chronic issue.
   - Monitor daily
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-11-24**] 10:21 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer: PPI
   VAP:  ICU protocol for VAP care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2130-11-26 07:25:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Diuresed gently (goal -1L)
   Held tube feeds in anticipation of possible extubation
   Continued to do well on PS
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2130-11-25**] 09:11 PM
   Meropenem - [**2130-11-26**] 05:05 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-26**] 12:13 AM
   Furosemide (Lasix) - [**2130-11-26**] 06:27 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-26**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 118 (93 - 127) bpm
   BP: 118/56(75) {81/44(56) - 137/68(91)} mmHg
   RR: 19 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
    CVP: 7 (3 - 21)mmHg
   Total In:
                                                                  2,604 mL
                                                                    698 mL
   PO:
   TF:
                                                                    841 mL
                                                                    187 mL
   IVF:
                                                                  1,193 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  3,245 mL
                                                                  1,360 mL
   Urine:
                                                                  2,295 mL
                                                                    560 mL
   NG:
   Stool:
                                                                    950 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                   -641 mL
                                                                   -662 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 436 (345 - 560) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.43/37/147/25/1
   Ve: 8.7 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases, Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, anasarca 1+
   Skin:  Warm, Rash: sacral decubiti
   Neurologic: Attentive, Follows simple commands, Responds to: Voice,
   Movement: purposeful, Sedated, Tone: Normal
   Labs / Radiology
   190 K/uL
   7.5 g/dL
   99 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   11 mg/dL
   113 mEq/L
   142 mEq/L
   22.1 %
   2.5 K/uL
         [image002.jpg]
                            [**2130-11-24**]  03:16 AM
                            [**2130-11-24**]  06:00 AM
                            [**2130-11-24**]  10:01 AM
                            [**2130-11-24**]  03:10 PM
                            [**2130-11-25**]  05:00 AM
                            [**2130-11-25**]  05:09 AM
                            [**2130-11-25**]  02:01 PM
                            [**2130-11-25**]  02:03 PM
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
   WBC
   2.1
   2.5
   2.5
   Hct
   22.5
   22.5
   22.1
   Plt
   174
   191
   190
   Cr
   0.5
   0.6
   0.4
   TCO2
   30
   27
   30
   28
   25
   Glucose
   119
   113
   113
   99
   Other labs: PT / PTT / INR:17.2/64.2/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:21/65, Alk Phos / T Bili:153/1.0,
   Differential-Neuts:51.0 %, Band:0.0 %, Lymph:28.0 %, Mono:15.0 %,
   Eos:6.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:192 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   CXR B/L pleural effusions
   [**11-23**]
 blood cultures GPCs in clusters from A-line
   Assessment and Plan
   52-year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Respiratory failure: [**Doctor Last Name 76**] resolving; P/F = 273. Likely partly due to
   fluid overload, no sign of ongoing pneumonia at this point. He is doing
   well on pressure support and clearly is improving.Patient completed an
   8 day course of Meropenem. Patient is off fentanyl drip and on bolus
   fentanyl for turns to decrease sedation.
   - I/O even
   - daily [**Last Name (un) **], today 95
   - trial SBT 0/5, if does by ABG will extubate
   # Hypotension/Tachycardia: stable after backing off from more
   aggressive diuresis.  A-line GPCs on one culture
   -          Pull a-line
   -          On vancomycin pending speciation, if coag neg staph and
   other cx neg, will stop vanc
   -          MAP goal 55
   -          Responded well to lasix 40iv *1 will not diurese further
   today
   -          Off pressors now, remaining stable.
   # Pancytopenia/Low grade Fever: Appears to have returned to low-grade
   fever and leucopenia as well as low Hct and Plts; this is immediately
   after starting vancomycin but actually probably too quick from start of
   med to drop in counts to attribute directly to vanco. [**Month (only) 8**] be artifact
   of dilution from fluid shifts given rapid change in setting of albumin
   administration, stopping diuresis yesterday, etc.
   - F/U Pan culture, CIS > 100.5
 all results negative to date
   - Continue to trend
   - Repeat check CBC w/diff out of concern for neutropenia
   - Transfuse for <21
   - If continued decline consider replacing vancomycin despite time
   course not matching well
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatitine
   # Anemia: Drop in Hct along with other cells (see above in
   pancytopenia); fluid shift artifact vs global production deficit.
   Macrocytic.  Stools guaiac negative.  Due to liver disease with
   B12/folate within normal limits.
   - Monitor daily
   - Transfuse HCT <21
   # Thrombocytopenia: Generally has been stable; see above re
   pancytopenia. In the past have attributed this to cirrhosis which
   remains his most chronic issue.
   - Monitor daily
   # Septic shock from PNA: Resolved.  Patient initially presented with
   septic shock attributed to his pan sensitive E. coli pneumonia.  Blood
   cultures did grow
 coag neg staph, likely contaminant, but LIJ was
   removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added for possible ESBL and patient
   completed 8 day course.  C. difficile negative x 3
   ICU Care
   Nutrition: tube feed on hold for potential extubation
   Glycemic Control:  insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2130-11-26 07:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo M w/ESLD [**1-14**] HCV a/w sepsis, ARDS [**1-14**] multifocal pneumonia.  No
   organism isolated, completing empiric course of abx.  Now weaning
   vent.
   24 Hour Events:
   Diuresed.
   TF held for potential extubation.
   Off propofol this am.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2130-11-25**] 09:11 PM
   Meropenem - [**2130-11-26**] 05:05 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
 OFF
   Other ICU medications:
   Pantoprazole
   Heparin Sodium 5000 sc tid
   Furosemide 40mg IV x1
   peridex
   Other medications:
   Insulin SS
   Reglan
   Rifaximin
   Erythromycin
   Lactulose
   Seroquel 300mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-26**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 118 (93 - 127) bpm
   BP: 118/56(75) {81/44(56) - 137/68(91)} mmHg
   RR: 19 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
   CVP: 7 (3 - 21)mmHg
   Total In:
                                                                  2,604 mL
                                                                    705 mL
   PO:
   TF:
                                                                    841 mL
                                                                    187 mL
   IVF:
                                                                  1,193 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  3,245 mL
                                                                  1,360 mL
   Urine:
                                                                  2,295 mL
                                                                    560 mL
   NG:
   Stool:
                                                                    950 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                   -641 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (345 - 560) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/37/147/25/1
   Ve: 7.8 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Intubated, awake, attentive, follows commands
   BS clear anteriorly, decreased laterally b/l
   Nl s1s2, regular, tachy
   Abd soft, NT, ND, +BS
   Ext warm
   +Anasarca
   Stage II sacral decub
   Labs / Radiology
   7.5 g/dL
   190 K/uL
   99 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   11 mg/dL
   113 mEq/L
   142 mEq/L
   22.1 %
   2.5 K/uL
        [image002.jpg]
                            [**2130-11-24**]  03:16 AM
                            [**2130-11-24**]  06:00 AM
                            [**2130-11-24**]  10:01 AM
                            [**2130-11-24**]  03:10 PM
                            [**2130-11-25**]  05:00 AM
                            [**2130-11-25**]  05:09 AM
                            [**2130-11-25**]  02:01 PM
                            [**2130-11-25**]  02:03 PM
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
   WBC
   2.1
   2.5
   2.5
   Hct
   22.5
   22.5
   22.1
   Plt
   174
   191
   190
   Cr
   0.5
   0.6
   0.4
   TCO2
   30
   27
   30
   28
   25
   Glucose
   119
   113
   113
   99
   Other labs: PT / PTT / INR:17.2/64.2/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:21/65, Alk Phos / T Bili:153/1.0,
   Differential-Neuts:51.0 %, Band:0.0 %, Lymph:28.0 %, Mono:15.0 %,
   Eos:6.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:192 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   [**11-23**] bld cxs
 w/GPC in clusters
   [**11-24**], [**11-26**] bld cxs NGTD
   Portable CXR
 low lung volumes, b/l pleural effusions, unchanged from
   prior
   Assessment and Plan
   See resident note for full details.
   52 yo M w/HCV, ESLD a/w sepsis and ARDS [**1-14**] multifocal pneumonia.
   Making steady progress on the vent and also off pressors.
   -Respiratory failure [**1-14**] multifocal pna, no organism isolated.
   Finished 8d course of Meropenem yesterday.  Currently on minimal vent
   support w/good oxygenation and ventilation.  Off sedation and following
   commands.  Given RSBI 95, will try PSV 5/0 for 30min and if does well
   plan to extubate (will need to make anesthesia aware as reportedly a
   difficult intubation in the ED).
   -Sepsis- off pressors w/stable hemodynamics.  Afebrile, cx if spikes.
   -GPC in clusters from blood (from a-line)- likely contaminant but
   continue vanco for now.  f/u speciation and surveillance cxs
 if rpt
   cxs neg x48hrs, will d/c vanco.  D/c a-line today.
   -Pancytopenia- chronic thrombocytopenia [**1-14**] liver dz, also has been
   anemic (tf for Hct<21).  ?if leucopenia [**1-14**] vanco, will follow.
   -ESLD- liver function stable.  Cont Lactulose, rifaximin.  Liver
   following- currently inactive on transplant list [**1-14**] infection.
   -FEN- Robust response to 40mg IV lasix this am, let autoregulate rest
   of day.  TF on hold for potential extubation.
   -Stage II sacral decub- cont wound care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Arterial Line - [**2130-11-13**] 05:26 PM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: pantoprazole
   VAP: peridex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 30min

2130-11-27 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Extubated
   - A-Line removed
   - Failed Speech and Swallow evaluation
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Meropenem - [**2130-11-26**] 05:05 AM
   Vancomycin - [**2130-11-26**] 07:39 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-11-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-27**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 113 (101 - 132) bpm
   BP: 111/65(74) {111/65(74) - 150/109(120)} mmHg
   RR: 26 (18 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
    CVP: 8 (5 - 10)mmHg
   Total In:
                                                                  1,657 mL
                                                                     75 mL
   PO:
                                                                    170 mL
   TF:
                                                                    187 mL
   IVF:
                                                                    970 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                    840 mL
   Urine:
                                                                  3,650 mL
                                                                    240 mL
   NG:
   Stool:
                                                                  1,250 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                 -3,243 mL
                                                                   -765 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 507 (507 - 507) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.47/37/112/26/3
   Ve: 7.8 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases, Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, anasarca 1+
   Skin:  Warm, Rash: sacral decubiti
   Neurologic: Attentive, Follows simple commands, Responds to: Voice,
   Movement: purposeful, Sedated, Tone: Normal
   Labs / Radiology
   215 K/uL
   7.6 g/dL
   100 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.4 mEq/L
   7 mg/dL
   111 mEq/L
   143 mEq/L
   22.1 %
   2.3 K/uL
        [image002.jpg]
                            [**2130-11-24**]  03:10 PM
                            [**2130-11-25**]  05:00 AM
                            [**2130-11-25**]  05:09 AM
                            [**2130-11-25**]  02:01 PM
                            [**2130-11-25**]  02:03 PM
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
   WBC
   2.1
   2.5
   2.5
   2.3
   Hct
   22.5
   22.5
   22.1
   22.1
   Plt
   174
   191
   190
   215
   Cr
   0.5
   0.6
   0.4
   0.4
   TCO2
   30
   28
   25
   27
   28
   Glucose
   113
   113
   99
   100
   Other labs: PT / PTT / INR:17.2/43.8/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:18/49, Alk Phos / T Bili:150/1.3,
   Differential-Neuts:37.4 %, Band:0.0 %, Lymph:45.5 %, Mono:12.5 %,
   Eos:3.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:192 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   52 year-old man with HCV cirrhosis here with hypoxemic respiratory
   failure from multifocal pneumonia.
   # Respiratory failure: Extubated. Patient completed an 8 day course of
   Meropenem. Patient is off fentanyl drip and on bolus fentanyl for turns
   to decrease sedation.
   - I/O even
   # Hypotension/Tachycardia: stable after backing off from more
   aggressive diuresis.  A-line GPCs on one culture
   -  Pull a-line
   -  On vancomycin pending speciation, if coag neg staph and other cx
   neg, will stop vanc
   -  MAP goal 55
   -  Responded well to lasix 40iv *1 will not diurese further today
   - Off pressors now, remaining stable.
   # Pancytopenia/Low grade Fever: Appears to have returned to low-grade
   fever and leucopenia as well as low Hct and Plts; this is immediately
   after starting vancomycin but actually probably too quick from start of
   med to drop in counts to attribute directly to vanco. [**Month (only) 8**] be artifact
   of dilution from fluid shifts given rapid change in setting of albumin
   administration, stopping diuresis yesterday, etc.
   - F/U Pan culture, CIS > 100.5
 all results negative to date
   - Continue to trend
   - Repeat check CBC w/diff out of concern for neutropenia
   - Transfuse for <21
   - If continued decline consider replacing vancomycin despite time
   course not matching well
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites.
   - Continue rifaximin and lactulose for encephalopathy (no being held
   given liquid stools)
   - Liver following; appreciate recs
   - Currently delisted from transplant due to acute infection
   - Continue to trend platelets
   # Stage 2 decubitus ulcer: No current signs of infection at the site.
   On wound care bed. Was admitted sacral decubiti.
   - Monitor closely and appropriate wound care
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatitine
   # Anemia: Drop in Hct along with other cells (see above in
   pancytopenia); fluid shift artifact vs global production deficit.
   Macrocytic.  Stools guaiac negative.  Due to liver disease with
   B12/folate within normal limits.
   - Monitor daily
   - Transfuse HCT <21
   # Thrombocytopenia: Generally has been stable; see above re
   pancytopenia. In the past have attributed this to cirrhosis which
   remains his most chronic issue.
   - Monitor daily
   # Septic shock from PNA: Resolved.  Patient initially presented with
   septic shock attributed to his pan sensitive E. coli pneumonia.  Blood
   cultures did grow
 coag neg staph, likely contaminant, but LIJ was
   removed [**11-14**] as a precaution.  Serial cultures no growth to date.
   Stopped aztreonam.  Meropenem added for possible ESBL and patient
   completed 8 day course.  C. difficile negative x 3
   ICU Care
   Nutrition:
   Comments: Needs NG for tube feeds pending repeat Speech and Swallow
   evaluation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2130-11-27 11:42:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 52 year old man with
   PMH of Hep C, ESLD, presented with hypoxemic respiratory failure and
   sepsis from multifocal pneumonia. Now extubated and normotensive.
   24 Hour Events:
   Extubated yesterday - now on room air.
   [**1-16**] Blood cultures positive for CNS drawn on [**11-23**], reported on [**11-25**].
   Surveillance cultures negative
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Meropenem - [**2130-11-26**] 05:05 AM
   Vancomycin - [**2130-11-27**] 08:44 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems: Review of systems is unchanged from admission except
   : Describes fatigue, weakness. No pain, nausea.
   Flowsheet Data as of  [**2130-11-27**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 104 (94 - 132) bpm
   BP: 113/67(75) {111/60(72) - 150/109(120)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
   CVP: 8 (5 - 10)mmHg
   Total In:
                                                                  1,657 mL
                                                                    314 mL
   PO:
                                                                    170 mL
   TF:
                                                                    187 mL
   IVF:
                                                                    970 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                  1,200 mL
   Urine:
                                                                  3,650 mL
                                                                    600 mL
   NG:
   Stool:
                                                                  1,250 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                 -3,243 mL
                                                                   -886 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.47/37/112/26/3
   PaO2 / FiO2: 280
   Physical Examination
   Awake, alert, interactive, appropriate.
   CTA anterior, diffuse rhonchorous sounds laterally, weak cough
   RRR.
   Abd NABS soft NDNT
   Trace edema, no rashes or joint inflammation
   Able to raise both LE and right UE against gravity, left UE could raise
   forearm but not deltoid
   Labs / Radiology
   7.6 g/dL
   215 K/uL
   100 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.4 mEq/L
   7 mg/dL
   111 mEq/L
   143 mEq/L
   22.1 %
   2.3 K/uL
        [image002.jpg]
                            [**2130-11-24**]  03:10 PM
                            [**2130-11-25**]  05:00 AM
                            [**2130-11-25**]  05:09 AM
                            [**2130-11-25**]  02:01 PM
                            [**2130-11-25**]  02:03 PM
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
   WBC
   2.1
   2.5
   2.5
   2.3
   Hct
   22.5
   22.5
   22.1
   22.1
   Plt
   174
   191
   190
   215
   Cr
   0.5
   0.6
   0.4
   0.4
   TCO2
   30
   28
   25
   27
   28
   Glucose
   113
   113
   99
   100
   Other labs: PT / PTT / INR:17.2/43.8/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:18/49, Alk Phos / T Bili:150/1.3,
   Differential-Neuts:37.4 %, Band:0.0 %, Lymph:45.5 %, Mono:12.5 %,
   Eos:3.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:192 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   52 year old man with Hep C, cirrhosis,admitted with hypoxemic
   respiratory failure and sepsis, now resolved. Currently on room air,
   off pressors, cleared by speech and swallow but with some ongoing
   pulmonary toilet issues. Currently on vancomycin for CNS bacteremia and
   with ongoing leukopenia. Trending CBC. Ddx includes infection, med,
   viral. Will pull triple lumen catheter  today. Likely can go to the
   floor in the am when pulmonary toilet issues improve. further plans as
   per resident note.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Multi Lumen - [**2130-11-14**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2130-11-28 08:00:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 MULTI LUMEN - STOP [**2130-11-27**] 05:46 PM
   - RIJ removed
   - Noted to aspirate with pills and prethickened liquids -> will repeat
   Speech & Swallow evaluation
   - Zydis 5 mg x 1 overnight as could not receive seroquel
   - Erythromycin PO discontinued
   History obtained from Patient
   Allergies:
   History obtained from PatientNafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Meropenem - [**2130-11-26**] 05:05 AM
   Vancomycin - [**2130-11-27**] 08:34 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2130-11-27**] 11:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough
   Gastrointestinal: hungry
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-11-28**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 112 (69 - 115) bpm
   BP: 117/91(97) {100/38(57) - 191/91(97)} mmHg
   RR: 27 (10 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                    641 mL
                                                                    180 mL
   PO:
             TF:
   IVF:
                                                                    641 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  2,165 mL
                                                                    565 mL
   Urine:
                                                                  1,365 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,524 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Unable to stand, 3+/5 strength deltoid, and hip
   flexors
   Skin:  Warm, Rash: decubitus on sacrum
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   213 K/uL
   7.9 g/dL
   115 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.2 mEq/L
   6 mg/dL
   110 mEq/L
   139 mEq/L
   22.8 %
   2.6 K/uL
        [image002.jpg]
                            [**2130-11-25**]  05:00 AM
                            [**2130-11-25**]  05:09 AM
                            [**2130-11-25**]  02:01 PM
                            [**2130-11-25**]  02:03 PM
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
                            [**2130-11-28**]  03:27 AM
   WBC
   2.1
   2.5
   2.5
   2.3
   2.6
   Hct
   22.5
   22.5
   22.1
   22.1
   22.8
   Plt
   174
   191
   190
   215
   213
   Cr
   0.5
   0.6
   0.4
   0.4
   0.4
   TCO2
   28
   25
   27
   28
   Glucose
   113
   113
   99
   100
   115
   Other labs: PT / PTT / INR:18.0/33.6/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:23/65, Alk Phos / T Bili:145/1.5,
   Differential-Neuts:40.5 %, Band:0.0 %, Lymph:42.9 %, Mono:11.1 %,
   Eos:4.7 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:192 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Cultures
   Assessment and Plan
   52 year-old man with HCV cirrhosis admitted with hypoxemic respiratory
   failure from multifocal pneumonia.  Extubated [**11-26**].
   # Dysphagia- like due to prolonged intubation. Given slow progress and
   need for meds to prevent encephalopathy, will place NG tube.
   - place NG tube
   # Pancytopenia: Patient infection versus his underlying cirrhosis
   versus medication effect . Currently afebrile > 48 hours.  Macrocytic
   anemia and thrombocytopenia attributed to liver failure.  Stools guaiac
   negative and B12/folate normal.
   - Monitor CBC, ANC closely
   - Continue vancomycin for coagulase negative Staph bacteremia as below
   - Transfuse hematocrit < 21 or active bleeding
   - Transfuse platelets < 10 or active bleeding
   - Guaiac all stools
   # Coagulase negative Staph bacteremia:2 out of 2 from [**11-12**] and 2 out
   of 4 bottles from [**11-23**] positive.  Likely a contaminant but will given
   growth will treat for 14 day course.  LIJ removed [**11-14**]; RIJ(replacement
   for LIJ) [**11-27**], A-line removed [**11-26**].  Stable off pressors since [**11-24**].
   - Monitor surveillance blood cultures
 NGTD
   - Vancomycin for 14 day course
   - Continue to draw surveilance off PORT-a- CATH
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites
 negative for SBP [**11-22**].
   Pancytopenia as above.
   - Liver following; appreciate
   - Continue rifaximin and lactulose for encephalopathy
   - Holding propanolol for now
 can consider restarting tomorrow
   - Currently delisted from transplant due to acute infection
   # Stage 2 decubitus ulcer: Decubitus ulcer noted on admission.  No
   current signs of infection at the site.  On wound care bed.
   - Monitor closely and appropriate wound care
   # Septic shock from pneumonia: Resolved.  Stable off pressors since
   [**11-24**].  Patient initially presented with septic shock attributed to his
   pan sensitive E. coli pneumonia.  Completed eight-day course of
   meropenem; was on levofloxacin for synergy but discontinued.  Blood
   cultures grew coagulase negative Staph bacteremia, likely a
   contaminant, but LIJ was removed [**11-14**] as a precaution.  Coagulase
   negative Staph bacteremia see above
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatinine
   ICU Care
   Nutrition: NPO given failed speech and swallow
   Glycemic Control:  Comments: insulin
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  not intubated
   Communication:  wife
   [**Name (NI) 156**] status: Full code
   Disposition:Transfer to floor

2130-11-28 09:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. briefly, 52 year old man with
   Hep C, chirossis, presented with septic shock, ARDS from multifocal PNA
   with no clear pathogen identified. Now off pressors, extubated.
   24 Hour Events:
   RIJ discontinued
   Failed PO diet last yesterday
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Meropenem - [**2130-11-26**] 05:05 AM
   Vancomycin - [**2130-11-27**] 08:34 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2130-11-27**] 11:36 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-28**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 112 (69 - 115) bpm
   BP: 117/91(97) {100/38(57) - 191/91(97)} mmHg
   RR: 27 (10 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                    641 mL
                                                                    188 mL
   PO:
             TF:
   IVF:
                                                                    641 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  2,165 mL
                                                                    565 mL
   Urine:
                                                                  1,365 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,524 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, anti-gravity
   strength, b/l  UE+LE
   Labs / Radiology
   7.9 g/dL
   213 K/uL
   115 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.2 mEq/L
   6 mg/dL
   110 mEq/L
   139 mEq/L
   22.8 %
   2.6 K/uL
        [image002.jpg]
                            [**2130-11-25**]  05:00 AM
                            [**2130-11-25**]  05:09 AM
                            [**2130-11-25**]  02:01 PM
                            [**2130-11-25**]  02:03 PM
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
                            [**2130-11-28**]  03:27 AM
   WBC
   2.1
   2.5
   2.5
   2.3
   2.6
   Hct
   22.5
   22.5
   22.1
   22.1
   22.8
   Plt
   174
   191
   190
   215
   213
   Cr
   0.5
   0.6
   0.4
   0.4
   0.4
   TCO2
   28
   25
   27
   28
   Glucose
   113
   113
   99
   100
   115
   Other labs: PT / PTT / INR:18.0/33.6/1.6, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:23/65, Alk Phos / T Bili:145/1.5,
   Differential-Neuts:40.5 %, Band:0.0 %, Lymph:42.9 %, Mono:11.1 %,
   Eos:4.7 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:192 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Microbiology: Now [**1-14**] CNS
   Assessment and Plan
   Plan as per resident note. Briefly, 52 year old man with ESLD [**1-14**] Hep C
   admitted to the MICU with septic shock, hypoxemic respiratory failure,
   ARDS all now resolved.
   CNS bacteremia likely secondary to TLC, now removed. 14 days of
   vancomycin. Pan-cytopenia improving, will continue to trend. Okay to
   transfer to floor today.
   ICU Care
   Nutrition:
   Comments: NPO - NG tube this am
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2130-11-29 09:00:00 Physician Resident Progress Note
Chief Complaint: likely multifocal PNA-->ARDS in setting of advanced
   hep C cirrhosis
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2130-11-28**] 12:19 PM
 MAGNETIC RESONANCE IMAGING - At [**2130-11-28**] 08:00 PM
   PT GOT .5MG IV ATIVAN FOR PROCEDURE DUE TO EXCESSIVE MOVEMENT IN
   SCANNER . bp DOWN TO 93/45, BUT PT AWAKE AND ASKING FOR JUICE
 FEVER - 101.3
F - [**2130-11-28**] 04:00 PM
   Apparent seizure event in AM during rounds, got 2 mg ativan for this
   EEG done, read pending
   CT head negative
   MRI done; got 0.5 mg ativan for this b/c of movement
   Seroquel taken off
   Continued to be encephalopathic/sedated-appearing, but interactive
   2x restraints for trying to pull NG tube
   Continued vanco; started ceftaz and flagyl
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2130-11-28**] 09:00 PM
   Ceftazidime - [**2130-11-29**] 04:00 AM
   Metronidazole - [**2130-11-29**] 04:27 AM
   Rifampin - [**2130-11-29**] 06:20 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2130-11-28**] 10:00 AM
   Heparin Sodium - [**2130-11-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-29**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 106 (72 - 139) bpm
   BP: 106/58(69) {92/49(61) - 143/84(99)} mmHg
   RR: 24 (20 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  1,090 mL
                                                                    350 mL
   PO:
             TF:
   IVF:
                                                                    940 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                  1,100 mL
   Urine:
                                                                  1,230 mL
                                                                    340 mL
   NG:
                                                                     30 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -995 mL
                                                                   -751 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.47/33/117/23/1
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   7.7 g/dL
   93 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.3 mEq/L
   5 mg/dL
   116 mEq/L
   145 mEq/L
   22.6 %
   2.9 K/uL
        [image002.jpg]
                            [**2130-11-25**]  02:03 PM
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
                            [**2130-11-28**]  03:27 AM
                            [**2130-11-28**]  09:59 AM
                            [**2130-11-28**]  12:31 PM
                            [**2130-11-29**]  06:07 AM
   WBC
   2.5
   2.3
   2.6
   2.9
   Hct
   22.1
   22.1
   22.8
   22.6
   Plt
   190
   215
   213
   230
   Cr
   0.6
   0.4
   0.4
   0.4
   0.5
   0.5
   TCO2
   25
   27
   28
   25
   Glucose
   113
   99
   100
   115
   118
   93
   Other labs: PT / PTT / INR:18.4/38.4/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:23/65, Alk Phos / T Bili:145/1.5,
   Differential-Neuts:41.6 %, Band:0.0 %, Lymph:42.6 %, Mono:10.4 %,
   Eos:4.7 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:218 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 NEUTROPENIA
 HEPATIC ENCEPHALOPATHY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 .H/O CIRRHOSIS OF LIVER, OTHER
 IMPAIRED SKIN INTEGRITY
   52 year-old man with HCV cirrhosis admitted with hypoxemic respiratory
   failure from multifocal pneumonia.  Extubated [**11-26**].
   # Seizure event- EEG, MRI, CT all negative so far though final reads
   are pending. Unclear reason; ?perisepsis given fever afterwards,
   started ceftaz/flagyl/vanco regimen which will hopefully be able to be
   pulled off soon. Await cultures to define course, aim is to peel away
   antibiotics quickly if clinical status is good. Follow up all studies.
   # Dysphagia- like due to prolonged intubation. Given slow progress and
   need for meds to prevent encephalopathy, will place NG tube.
   - place NG tube
   # Pancytopenia: Patient infection versus his underlying cirrhosis
   versus medication effect . Currently afebrile > 48 hours.  Macrocytic
   anemia and thrombocytopenia attributed to liver failure.  Stools guaiac
   negative and B12/folate normal.
   - Monitor CBC, ANC closely
   - Continue vancomycin for coagulase negative Staph bacteremia as below
   - Transfuse hematocrit < 21 or active bleeding
   - Transfuse platelets < 10 or active bleeding
   - Guaiac all stools
   # Coagulase negative Staph bacteremia:2 out of 2 from [**11-12**] and 2 out
   of 4 bottles from [**11-23**] positive.  Likely a contaminant but will given
   growth will treat for 14 day course.  LIJ removed [**11-14**]; RIJ(replacement
   for LIJ) [**11-27**], A-line removed [**11-26**].  Stable off pressors since [**11-24**].
   - Monitor surveillance blood cultures
 NGTD
   - Vancomycin for 14 day course
   - Continue to draw surveilance off PORT-a- CATH
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices.  Small amount of ascites
 negative for SBP [**11-22**].
   Pancytopenia as above.
   - Liver following; appreciate
   - Continue rifaximin and lactulose for encephalopathy
   - Holding propanolol for now
 can consider restarting tomorrow
   - Currently delisted from transplant due to acute infection
   # Stage 2 decubitus ulcer: Decubitus ulcer noted on admission.  No
   current signs of infection at the site.  On wound care bed.
   - Monitor closely and appropriate wound care
   # Septic shock from pneumonia: Resolved.  Stable off pressors since
   [**11-24**].  Patient initially presented with septic shock attributed to his
   pan sensitive E. coli pneumonia.  Completed eight-day course of
   meropenem; was on levofloxacin for synergy but discontinued.  Blood
   cultures grew coagulase negative Staph bacteremia, likely a
   contaminant, but LIJ was removed [**11-14**] as a precaution.  Coagulase
   negative Staph bacteremia see above
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolmic/septic shock.
   - Monitor creatinine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2130-11-29 11:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details, briefly 52 year old man with
   ESLD [**1-14**] Hep C admitted with septic shock and ARDS [**1-14**] pneumonia.
   Extubated and off pressors but suffered witnessed seizure + fever
   yesterday. Head CT, LP negative. Prelim read on MRI negative, EEG read
   pending.  Awaiting neuro input.
   24 Hour Events:
   Seizure with negative w/u
   Fever to 101
   Failed speech/swallow
   Dobhoff replaced but coiled in stomach
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Ceftazidime - [**2130-11-29**] 04:00 AM
   Metronidazole - [**2130-11-29**] 04:27 AM
   Rifampin - [**2130-11-29**] 06:20 AM
   Vancomycin - [**2130-11-29**] 09:51 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2130-11-29**] 09:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems: Review of systems is unchanged from admission except
   as noted below. Profound weakness but very interactive. No complaints.
   Flowsheet Data as of  [**2130-11-29**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.8
   HR: 103 (72 - 115) bpm
   BP: 107/54(67) {92/49(61) - 123/75(81)} mmHg
   RR: 23 (23 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  1,090 mL
                                                                    574 mL
   PO:
             TF:
   IVF:
                                                                    940 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                  1,470 mL
   Urine:
                                                                  1,230 mL
                                                                    710 mL
   NG:
                                                                     30 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -995 mL
                                                                   -896 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.47/33/117/23/1
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Left base)
   Skin:  Not assessed
   Neurologic: Responds to: Fine resting tremor. Mild asterixis. Raises
   legs and right UE against gravity briefly. Interactive, appropriate.
   Labs / Radiology
   7.7 g/dL
   230 K/uL
   93 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.3 mEq/L
   5 mg/dL
   116 mEq/L
   145 mEq/L
   22.6 %
   2.9 K/uL
        [image002.jpg]
                            [**2130-11-25**]  02:03 PM
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
                            [**2130-11-28**]  03:27 AM
                            [**2130-11-28**]  09:59 AM
                            [**2130-11-28**]  12:31 PM
                            [**2130-11-29**]  06:07 AM
   WBC
   2.5
   2.3
   2.6
   2.9
   Hct
   22.1
   22.1
   22.8
   22.6
   Plt
   190
   215
   213
   230
   Cr
   0.6
   0.4
   0.4
   0.4
   0.5
   0.5
   TCO2
   25
   27
   28
   25
   Glucose
   113
   99
   100
   115
   118
   93
   Other labs: PT / PTT / INR:18.4/38.4/1.7, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:23/65, Alk Phos / T Bili:145/1.5,
   Differential-Neuts:41.6 %, Band:0.0 %, Lymph:42.6 %, Mono:10.4 %,
   Eos:4.7 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:218 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR - Volume loss in LLL
   Assessment and Plan
   52 year old man with PMH ESLD [**1-14**] Hep C , admitted with ARDS and septic
   shock now resolved. Febrile with witnessed seizure yesterday. Negative
   w/u (EEG,MRI final read pending, LP , head CT negative). Cultures
   pending as part of fever w/u, currently on vanc/ceftaz. Seizure
   yesterday apparently due to toxic-metabolic process but will have neuro
   comment today. If stable today, can likely go to the floor. Further
   plans as per resident note.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2130-11-30 08:53:00 Physician Resident Progress Note
Chief Complaint: hep c cirrhosis, s/p multifocal pna
   24 Hour Events:
 ULTRASOUND - At [**2130-11-29**] 04:40 PM
   Pt had Dobhoff placed and then self-d/c'ed it
   Had neurology evaluation for ? seizure- per neuro MRI with sig. brain
   atrophy - ALS vs hep C neuropathy
   EMG for today
   EEG no seizure activity
   Abd Ultrasound not enough to ascites tap
   Failed speech/swallow plan for video swallow today
   Patient confused, thinks he is at "[**State 621**] Fire Department",
   convinced team has been comparing him to [**Doctor First Name 3337**] Hitler (apparent
   confusion w recent news item on TV)
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Metronidazole - [**2130-11-29**] 04:27 AM
   Rifampin - [**2130-11-29**] 06:20 AM
   Vancomycin - [**2130-11-29**] 08:19 PM
   Ceftazidime - [**2130-11-30**] 04:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2130-11-30**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-30**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 89 (76 - 103) bpm
   BP: 110/63(76) {102/52(65) - 132/86(91)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  1,098 mL
                                                                    187 mL
   PO:
             TF:
   IVF:
                                                                    878 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  3,375 mL
                                                                    540 mL
   Urine:
                                                                  1,465 mL
                                                                    340 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,277 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Cardiac: RRR, no m.r.g.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Attentive, Oriented (to): month and year, not place;
   ongoing bilateral myoclonic tremor increasing in amplitude compared to
   some prior days, and asymmetric, without alteration in consciousness
   Labs / Radiology
   228 K/uL
   7.8 g/dL
   94 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.1 mEq/L
   4 mg/dL
   116 mEq/L
   145 mEq/L
   22.9 %
   3.3 K/uL
        [image002.jpg]
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
                            [**2130-11-28**]  03:27 AM
                            [**2130-11-28**]  09:59 AM
                            [**2130-11-28**]  12:31 PM
                            [**2130-11-29**]  06:07 AM
                            [**2130-11-30**]  04:36 AM
   WBC
   2.5
   2.3
   2.6
   2.9
   3.3
   Hct
   22.1
   22.1
   22.8
   22.6
   22.9
   Plt
   190
   215
   213
   230
   228
   Cr
   0.6
   0.4
   0.4
   0.4
   0.5
   0.5
   0.5
   TCO2
   27
   28
   25
   Glucose
   113
   99
   100
   115
   118
   93
   94
   Other labs: PT / PTT / INR:19.7/48.6/1.8, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:26/54, Alk Phos / T Bili:132/1.5,
   Differential-Neuts:41.6 %, Band:0.0 %, Lymph:42.6 %, Mono:10.4 %,
   Eos:4.7 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:218 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   52 year-old man with HCV cirrhosis admitted with hypoxemic respiratory
   failure from multifocal pneumonia.  Extubated [**11-26**].
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices. Confusion this AM c/w encephalopathy. Small amount of ascites
 negative for SBP [**11-22**]; not tappable by ultrasound yesterday.  MELD =
   15 today.
   - Liver following; he will be called out to the liver floor today
   - Continue rifaximin and lactulose for encephalopathy
   - Nadolol for prophylaxis for varices
   - Currently delisted from transplant due to acute infection; daily MELD
   labs
   # Seizure event- EEG, MRI, CT all negative so far for seizure source.
   MRI shows atrophy; see below. In terms of seizure event on [**11-28**],
   neurology consultants unsure re seizure vs myoclonus; ICU team
   observations are that the event was distinct and quite seizure-like
   when compared to his baseline tremor. The precipitant is unclear; he
   did have fever afterwards, LP was negative, antibiotics were started
   and are continuing. See below.
   - Appreciate neuro consult and ongoing involvement
   - Follow up final formal read on EEG
   - Observe closely
   - Follow up infectious w/u; multiple cxs pending
   # Dysphagia- like due to prolonged intubation. Has pulled tubes x2.
   Video speech and swallow during rounds: cleared for ground solids and
   thick nectar liquids, close supervision, crushed meds. Follow closely.
   # Pancytopenia: Chronic and stable at this point. [**Month (only) 8**] be medication
   effect (e.g., ongoing vancomycin) but all medications are useful enough
   to follow along as long as he is not frankly neutropenic; he is not
   today. Stools guaiac negative and B12/folate normal.
   - Monitor CBC, ANC
   - Covering infection as above
   - Transfuse hematocrit < 21 or active bleeding
   - Transfuse platelets < 10 or active bleeding
   - Guaiac stools
   # Fever. Fever post-seizure on [**11-28**]. Had already been treating with
   vanco for coagulase negative Staph bacteremia, with defined 14 day
   course ending [**12-8**]. Added ceftaz and continuing this currently.
   - Follow up cultures; will be 48 hours this evening at which time
   withdrawal of ceftaz would likely be appropriate
   - Continue to draw surveillance off PORT-a- CATH
   # Stage 2 decubitus ulcer: Decubitus ulcer noted on admission.  No
   current signs of infection at the site.  On wound care bed.
   - Monitor closely and appropriate wound care
   # Septic shock from pneumonia: Resolved.  Stable off pressors since
   [**11-24**].  Patient initially presented with septic shock attributed to his
   pan sensitive E. coli pneumonia.  Completed eight-day course of
   meropenem; was on levofloxacin for synergy but discontinued.  Blood
   cultures grew coagulase negative Staph bacteremia, likely a
   contaminant, but LIJ was removed [**11-14**] as a precaution.  Coagulase
   negative Staph bacteremia: see above
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolemic/septic shock.
   - Monitor creatinine
   ICU Care
   Nutrition: regular diet, consistency modifications as above
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP:  n/a
   Comments:
   Communication:  Comments: w patient and family
   Code status: Full code
   Disposition: c/o to liver floor today

2130-11-30 11:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 year old man with ESLD [**1-14**] Hep C p/w septic shock, ARDS , now
   resolved. Witnessed seizure in the unite 2 days with negative w/u (Head
   CT, LP , MRI/A, EEG).
   24 Hour Events:
   No events
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Metronidazole - [**2130-11-29**] 04:27 AM
   Rifampin - [**2130-11-29**] 06:20 AM
   Ceftazidime - [**2130-11-30**] 04:09 AM
   Vancomycin - [**2130-11-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2130-11-30**] 08:00 AM
   Pantoprazole (Protonix) - [**2130-11-30**] 09:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems: Review of systems is unchanged from admission except
   as noted below
   Flowsheet Data as of  [**2130-11-30**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 86 (76 - 102) bpm
   BP: 115/63(74) {102/52(65) - 132/86(92)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  1,098 mL
                                                                    421 mL
   PO:
             TF:
   IVF:
                                                                    878 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  3,375 mL
                                                                    540 mL
   Urine:
                                                                  1,465 mL
                                                                    340 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,277 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Appears comfortable, breathing is unlabored. Interactive, appropriate,
   cheerful.
   General Appearance: Well nourished, No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  No new rashes
   Neurologic: motor exam not sig changed from yesterday, some myoclonus
   Labs / Radiology
   7.8 g/dL
   228 K/uL
   94 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.1 mEq/L
   4 mg/dL
   116 mEq/L
   145 mEq/L
   22.9 %
   3.3 K/uL
        [image002.jpg]
                            [**2130-11-25**]  05:34 PM
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
                            [**2130-11-28**]  03:27 AM
                            [**2130-11-28**]  09:59 AM
                            [**2130-11-28**]  12:31 PM
                            [**2130-11-29**]  06:07 AM
                            [**2130-11-30**]  04:36 AM
   WBC
   2.5
   2.3
   2.6
   2.9
   3.3
   Hct
   22.1
   22.1
   22.8
   22.6
   22.9
   Plt
   190
   215
   213
   230
   228
   Cr
   0.6
   0.4
   0.4
   0.4
   0.5
   0.5
   0.5
   TCO2
   27
   28
   25
   Glucose
   113
   99
   100
   115
   118
   93
   94
   Other labs: PT / PTT / INR:19.7/48.6/1.8, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:26/54, Alk Phos / T Bili:132/1.5,
   Differential-Neuts:41.6 %, Band:0.0 %, Lymph:42.6 %, Mono:10.4 %,
   Eos:4.7 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:218 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   52 year old man with PMH as above. Plan as pre resident note. Briefly,
   septic shock and ARDS resolved. Fever two days ago as well as witnessed
   seizure. Aggressive w/u negative. Likely toxic-metabolic but will
   obtain EMG, labs as recommended to w/u possible neuropathy. Fever has
   resolved. On empiric regimen of vanc/ceftaz. If cultures negative at 48
   hours can DC ceftaz. Will complete 14 day course of vancomycin for
   previous coag neg staph bacteremia. Okay to transfer to floor today.
   ICU Care
   Nutrition:
   Comments: Passed video swallow today. Okay for nectar thick liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor

2130-12-01 08:49:00 Physician Resident Progress Note
Chief Complaint: respiratory failure in setting of multifocal PNA, hep
   C cirrhosis and encephalopathy
   24 Hour Events:
 CALLED OUT --but stayed in ICU [**1-14**] high anxiety reaction
   - Advanced diet
   - EMG showed likely critical illness polymyoneuropathy
   - Discontinued ceftazidine
   - Discontinued erythromycin drops
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Metronidazole - [**2130-11-29**] 04:27 AM
   Rifampin - [**2130-11-29**] 06:20 AM
   Ceftazidime - [**2130-11-30**] 08:00 PM
   Vancomycin - [**2130-11-30**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-11-30**] 09:17 AM
   Heparin Sodium - [**2130-11-30**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis, neg
   at time of exam
   Flowsheet Data as of  [**2130-12-1**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 122 (81 - 122) bpm
   BP: 131/77(90) {102/51(67) - 139/95(102)} mmHg
   RR: 25 (16 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  1,310 mL
                                                                    275 mL
   PO:
                                                                    510 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    800 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    360 mL
   Urine:
                                                                    890 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: in limited exam, No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): place,
   date/time, circumstances, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   234 K/uL
   8.1 g/dL
   94 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.2 mEq/L
   4 mg/dL
   115 mEq/L
   144 mEq/L
   23.2 %
   3.6 K/uL
        [image002.jpg]
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
                            [**2130-11-28**]  03:27 AM
                            [**2130-11-28**]  09:59 AM
                            [**2130-11-28**]  12:31 PM
                            [**2130-11-29**]  06:07 AM
                            [**2130-11-30**]  04:36 AM
                            [**2130-12-1**]  03:43 AM
   WBC
   2.5
   2.3
   2.6
   2.9
   3.3
   3.6
   Hct
   22.1
   22.1
   22.8
   22.6
   22.9
   23.2
   Plt
   190
   215
   213
   230
   228
   234
   Cr
   0.4
   0.4
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   27
   28
   25
   Glucose
   99
   100
   115
   118
   93
   94
   94
   Other labs: PT / PTT / INR:20.6/45.6/1.9, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:26/54, Alk Phos / T Bili:132/1.3,
   Differential-Neuts:41.6 %, Band:0.0 %, Lymph:42.6 %, Mono:10.4 %,
   Eos:4.7 %, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:206 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   52 year-old man with HCV cirrhosis admitted with hypoxemic respiratory
   failure from multifocal pneumonia.  Extubated [**11-26**].
   # Hepatitis C cirrhosis: Complicated by encephalopathy and grade II
   varices. Confusion this AM c/w encephalopathy. Small amount of ascites
 negative for SBP [**11-22**]; not tappable by ultrasound yesterday.  MELD =
   15 today.
   - Liver following; he will be called out to the liver floor today
   - Continue rifaximin and lactulose for encephalopathy
   - Nadolol for prophylaxis for varices
   - Currently delisted from transplant due to acute infection; daily MELD
   labs
   # Seizure event- EEG, MRI, CT all negative so far for seizure source.
   MRI shows atrophy; see below. In terms of seizure event on [**11-28**],
   neurology consultants unsure re seizure vs myoclonus; ICU team
   observations are that the event was distinct and quite seizure-like
   when compared to his baseline tremor. The precipitant is unclear; he
   did have fever afterwards, LP was negative, antibiotics were started
   and are continuing. See below.
   - Appreciate neuro consult and ongoing involvement
   - Follow up final formal read on EEG
   - Observe closely
   - Follow up infectious w/u; multiple cxs pending
   # Dysphagia- like due to prolonged intubation. Has pulled tubes x2.
   Video speech and swallow during rounds: cleared for ground solids and
   thick nectar liquids, close supervision, crushed meds. Follow closely.
   # Pancytopenia: Chronic and stable at this point. [**Month (only) 8**] be medication
   effect (e.g., ongoing vancomycin) but all medications are useful enough
   to follow along as long as he is not frankly neutropenic; he is not
   today. Stools guaiac negative and B12/folate normal.
   - Monitor CBC, ANC
   - Covering infection as above
   - Transfuse hematocrit < 21 or active bleeding
   - Transfuse platelets < 10 or active bleeding
   - Guaiac stools
   # Fever. Fever post-seizure on [**11-28**]. Had already been treating with
   vanco for coagulase negative Staph bacteremia, with defined 14 day
   course ending [**12-8**]. Added ceftaz and continuing this currently.
   - Follow up cultures; will be 48 hours this evening at which time
   withdrawal of ceftaz would likely be appropriate
   - Continue to draw surveillance off PORT-a- CATH
   # Stage 2 decubitus ulcer: Decubitus ulcer noted on admission.  No
   current signs of infection at the site.  On wound care bed.
   - Monitor closely and appropriate wound care
   # Septic shock from pneumonia: Resolved.  Stable off pressors since
   [**11-24**].  Patient initially presented with septic shock attributed to his
   pan sensitive E. coli pneumonia.  Completed eight-day course of
   meropenem; was on levofloxacin for synergy but discontinued.  Blood
   cultures grew coagulase negative Staph bacteremia, likely a
   contaminant, but LIJ was removed [**11-14**] as a precaution.  Coagulase
   negative Staph bacteremia: see above
   # Acute renal failure: Resolved; likely prerenal due to
   hypovolemic/septic shock.
   - Monitor creatinine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-12-01 10:21:00 Physician Attending Progress Note
Chief Complaint: Sepsis,ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 year old man with PMH ESLD [**1-14**] Hep C, a/w with sepsis and ARDS now
   resolved. Please see previous noted for details.
   24 Hour Events:
 CALLED OUT
   EMG c/w with critical illness polymyopathy
   Ceftaz DC'd.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Metronidazole - [**2130-11-29**] 04:27 AM
   Rifampin - [**2130-11-29**] 06:20 AM
   Vancomycin - [**2130-11-30**] 08:00 PM
   Ceftazidime - [**2130-11-30**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2130-11-30**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-1**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 112 (72 - 123) bpm
   BP: 139/118(124) {102/51(67) - 139/118(124)} mmHg
   RR: 24 (16 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 80 kg
   Height: 65 Inch
             Total In:
                                                                  1,310 mL
                                                                    275 mL
   PO:
                                                                    510 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    800 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    520 mL
   Urine:
                                                                    890 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Somnolent
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: spont movement of all
   extremities, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   234 K/uL
   94 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.2 mEq/L
   4 mg/dL
   115 mEq/L
   144 mEq/L
   23.2 %
   3.6 K/uL
        [image002.jpg]
                            [**2130-11-26**]  03:41 AM
                            [**2130-11-26**]  11:17 AM
                            [**2130-11-27**]  03:45 AM
                            [**2130-11-27**]  04:00 AM
                            [**2130-11-28**]  03:27 AM
                            [**2130-11-28**]  09:59 AM
                            [**2130-11-28**]  12:31 PM
                            [**2130-11-29**]  06:07 AM
                            [**2130-11-30**]  04:36 AM
                            [**2130-12-1**]  03:43 AM
   WBC
   2.5
   2.3
   2.6
   2.9
   3.3
   3.6
   Hct
   22.1
   22.1
   22.8
   22.6
   22.9
   23.2
   Plt
   190
   215
   213
   230
   228
   234
   Cr
   0.4
   0.4
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   27
   28
   25
   Glucose
   99
   100
   115
   118
   93
   94
   94
   Other labs: PT / PTT / INR:20.6/45.6/1.9, CK / CKMB /
   Troponin-T:121/2/<0.01, ALT / AST:26/54, Alk Phos / T Bili:132/1.3,
   Differential-Neuts:41.6 %, Band:0.0 %, Lymph:42.6 %, Mono:10.4 %,
   Eos:4.7 %, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:206 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   52 year old man with ESLD [**1-14**] Hep C. admitted to the MICU with septic
   shock and ARDS now resolved. Continues on vancomycin x 14 days for CNS
   bacteremia.
   Negative seizure w/u after event [**11-28**] and EMG just consitent with
   critical illness myopathy. PT following. Okay to transfer to floor.
   Further plans as per resident
   note.
   ICU Care
   Nutrition:
   Comments: PO diet, nectar thick
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2130-11-11**] 12:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Resident and fellow for key portions of the services provided.  I agree
   with his / her notes above, including assessment and plan. ESLD, septic
   shock, pna, ARDS now breathing ambient air with no respiratory
   difficulty. Passed video swallow and eating thickened foods. 14 day
   course of vanco for coag neg staph bacteremia. Profound weakness which
   is likely critical illness myopathy, with marginal improvements in his
   exam over past couple of days. PT involved.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2130-12-1**] 16:42 ------